2187-11-21 09:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, progressive respiratory distress, intubated this AM.
   Remains intubated, mechanically ventilated.
   Vasopressor weaned to d/c this AM.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-21**] 06:19 AM
   Ceftriaxone - [**2187-11-21**] 08:19 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-21**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 114 (100 - 114) bpm
   BP: 98/74(78) {98/15(46) - 139/79(91)} mmHg
   RR: 21 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  1,379 mL
   PO:
   TF:
   IVF:
                                                                  1,379 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    630 mL
   Urine:
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    749 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 98%
   ABG: ///17/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal, Sedated by arrousable and appropriate
   Labs / Radiology
   12.2 g/dL
   249 K/uL
   196 mg/dL
   1.1 mg/dL
   17 mEq/L
   4.9 mEq/L
   26 mg/dL
   106 mEq/L
   138 mEq/L
   38.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2187-11-21**]  02:30 AM
   WBC
   3.6
   Hct
   38.4
   Plt
   249
   Cr
   1.1
   Glucose
   196
   Other labs: PT / PTT / INR:15.0/24.2/1.3, Lactic Acid:3.2 mmol/L
   Imaging: CXR ([**2187-11-21**]) progresive diffuse alveolar infiltrates,
   bilaterally; retrocardiac density
   Assessment and Plan
   63 yo female with 5 day prodrome and now with admission with
   significant respiratory distress in the setting of influenza (H1N1)
   with left sided retrocardiac opacity suggesting significant pneumonia.
   RESPIRATORY FAILURE -- attributed to to progressive pneumonia
   (influenza), possible evolving ARDS, perhaps superimposed LLL
   pneumonia.  Continue mechanical ventilation (lung protective strategy),
   monitor ABG, SaO2, CXR, and clinical response.
   PULMONARY INFILTRATES -- attributed to influenza, bacterial pneumonia
   (LLL), and possible evolving ARDS.  Continue Tamiflu and empirical
   antimicrobials (Vanco, Ceftrixone, Levofloxicin)
   HYPOTENSION -- attributed to hypovolemia and sepsis.  Resolved.  Now
   off vasopressors.  Monitor BP, maintain MAP > 60 mmHg.
   FLUIDS -- hypovolemia, now improved.  Monitor I/O, maintain CVP >8 cm
   H2O.
   RENAL FUNCTION -- preserved.  Monitor I/O, urine output.
   NEUROLOGICAL STATUS -- continue sedation.  Daily wake up.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-21**] 01:46 AM
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-11-21 13:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Intubated for increased respiratory effort, work of breathing, and
   respiratory failure
   Weaned from pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-21**] 06:19 AM
   Ceftriaxone - [**2187-11-21**] 08:19 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-21**] 01:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 101 (100 - 114) bpm
   BP: 96/60(67) {96/15(46) - 139/79(91)} mmHg
   RR: 15 (15 - 39) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 12 (2 - 14)mmHg
   Total In:
                                                                  1,731 mL
   PO:
   TF:
   IVF:
                                                                  1,491 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    735 mL
   Urine:
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    996 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/38/158/17/-5
   Ve: 7.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   GENERAL: Pleasant, intubated, sedated, responding to commands
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: RIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   249 K/uL
   12.2 g/dL
   196 mg/dL
   1.1 mg/dL
   17 mEq/L
   4.9 mEq/L
   26 mg/dL
   106 mEq/L
   138 mEq/L
   38.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2187-11-21**]  02:30 AM
                             [**2187-11-21**]  09:41 AM
   WBC
   3.6
   Hct
   38.4
   Plt
   249
   Cr
   1.1
   TCO2
   20
   Glucose
   196
   Other labs: PT / PTT / INR:15.0/24.2/1.3, Lactic Acid:2.7 mmol/L
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   .
   #. H1N1 Influenza
 confirmed by DFA at OSH
   -- Tamiflu 150mg [**Hospital1 **]
   -- supportive care with tylenol prn fever, IVF
   .
   #. Hypotension - resolved.  BP currently stable off of pressors.
   Lactate is trending down with the last value at 2.7 from ABG.
   -- IVf resuscitation
 if hypotensive/CVP drops
   -- Measure CVP, with a goal of  [**8-29**]
 bolus if necessary
   -- Goal MAP 65
   -- trend lactate
   .
   # Hypoxia - Likely etiology is confirmed influenza, yet there is
   concern for a superimposed bacterial infection given the X-ray findings
   and increased lactate.
   -- treat flu as above
   -- F/u sputum, blood cultures
   -- Ventilated
   -- treat as ICU level CAP with Vancomycin 1250mg [**Hospital1 7**], Ceftriaxone and
   levofloxacin
   .
   #. Anion Gap Acidosis
 Gap of 15 today, likely due to elevated lactate
   -- Continue to trend
   .
   #. DM
   -- Hold oral metformin because of lactic acidosis
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac for now (amytriptyline is a home med)
   ICU Care
   Nutrition: Nutrition consult, and TF
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2187-11-21**] 01:46 AM
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter (number in the room)
   Code status: Full
   Disposition: ICU
   13:26

2187-11-22 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -changed Tamiflu 75mg [**Hospital1 7**] to 150mg [**Hospital1 7**] given obesity
   -changed Vancomycin 1g q24h to q12h (body habitus)
   -Received Arterial line
   -Got bolused 1000cc, 1000cc, 500 cc NS.  MAP in mid-60s, but has not
   required pressors.
   -Received Left IJ.
   -CXR confirmed placement of NGT, LIJ, ETT.  RIJ was d/c'd.
   -7 PM VBG 7.24/50/54/22/-6, ABG 7.27/46/99/22/-5
   -Started tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-21**] 08:19 AM
   Vancomycin - [**2187-11-21**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 112 (97 - 126) bpm
   BP: 109/61(77) {81/50(64) - 145/76(97)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  4,409 mL
                                                                    372 mL
   PO:
   TF:
   IVF:
                                                                  4,049 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    477 mL
   Urine:
                                                                  1,200 mL
                                                                    477 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,209 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 286 (286 - 286) mL
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 119
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.32/42/81.[**Numeric Identifier 508**]/21/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 164
   Physical Examination
   GENERAL: Intubated, sedated, appears comfortable, but alert, responding
   to commands, able to answer yes/no questions
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, WWP
   NEURO: Able to answer yes/no questions. Follow commands. PERRL. Moving
   all extremities.
   Labs / Radiology
   229 K/uL
   10.7 g/dL
   84 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.6 mEq/L
   26 mg/dL
   109 mEq/L
   138 mEq/L
   32.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-11-21**]  02:30 AM
                             [**2187-11-21**]  09:41 AM
                             [**2187-11-21**]  04:20 PM
                             [**2187-11-21**]  07:55 PM
                             [**2187-11-21**]  10:51 PM
                             [**2187-11-21**]  11:04 PM
                             [**2187-11-22**]  05:14 AM
                             [**2187-11-22**]  05:26 AM
   WBC
   3.6
   4.6
   6.1
   Hct
   38.4
   32.0
   32.7
   Plt
   249
   189
   229
   Cr
   1.1
   0.8
   0.8
   TCO2
   20
   22
   22
   23
   23
   Glucose
   196
   89
   84
   Other labs: PT / PTT / INR:17.5/40.9/1.6, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:1.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   .
   #. Pneumonia: H1N1 Influenza confirmed by DFA at OSH. [**Month (only) 51**] also have
   bacterial superinfection. Sputum gram stain showed GPCs single and in
   pairs + GPRs (GPC
s are contaminent vs. strep vs. staph)
   -- Tamiflu 150mg [**Hospital1 **]
   -- supportive care with tylenol prn fever, IVF
   -- continue vanc, ceftriaxone, levofloxacin for now
   -- check vanc trough in p.m.
   -- f/u pending cultures
   .
   #. Hypotension - resolved.  BP currently stable off of pressors.
   Lactate is trending down with the last value at 2.7 from ABG.
   -- IVf resuscitation
 if hypotensive/CVP drops
   -- Measure CVP, with a goal of  [**8-29**]
 bolus if necessary
   -- Goal MAP 65
   -- trend lactate
   .
   # Hypoxia - Likely etiology is confirmed influenza, yet there is
   concern for a superimposed bacterial infection given the X-ray findings
   and increased lactate.
   -- treat flu as above
   -- F/u sputum, blood cultures
   -- Ventilated
   -- treat as ICU level CAP with Vancomycin 1250mg [**Hospital1 7**], Ceftriaxone and
   levofloxacin
   .
   #. Anion Gap Acidosis
 Gap of 15 today, likely due to elevated lactate
   -- Continue to trend
   .
   #. DM
   -- Hold oral metformin because of lactic acidosis
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac for now (amytriptyline is a home med)
   ICU Care
   Nutrition: Nutrition consult, and TF
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2187-11-21**] 01:46 AM
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter (number in the room)
   Code status: Full
   Disposition: ICU

2187-11-22 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Received Arterial line
   -Got bolused 1000cc, 1000cc, 500 cc NS.  MAP in mid-60s, but has not
   required pressors.
   -Received Left IJ.
   -CXR confirmed placement of NGT, LIJ, ETT.  RIJ was d/c'd.
   -7 PM VBG 7.24/50/54/22/-6, ABG 7.27/46/99/22/-5
   -Started tube feeds
   -RSBI 119 this AM, pt. satting in low 90s, UOP good.
   -Aspiration of "brownish" secretions over the past 2 hours, believed to
   be because not humidified on vent.
   ABG 7.32/42/82/23/-4 on AC/500/18/5/50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-21**] 08:19 AM
   Vancomycin - [**2187-11-21**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-22**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 112 (97 - 126) bpm
   BP: 109/61(77) {81/50(64) - 145/76(97)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  4,409 mL
                                                                    376 mL
   PO:
   TF:
   IVF:
                                                                  4,049 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    477 mL
   Urine:
                                                                  1,200 mL
                                                                    477 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,209 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 286 (286 - 286) mL
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 119
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.32/42/81.[**Numeric Identifier 508**]/21/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 164
   Physical Examination
   GENERAL: Pleasant, intubated, sedated, responding to commands
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi. Decreased
   breath sounds at the bases, right worse than left.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   229 K/uL
   10.7 g/dL
   84 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.6 mEq/L
   26 mg/dL
   109 mEq/L
   138 mEq/L
   32.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-11-21**]  02:30 AM
                             [**2187-11-21**]  09:41 AM
                             [**2187-11-21**]  04:20 PM
                             [**2187-11-21**]  07:55 PM
                             [**2187-11-21**]  10:51 PM
                             [**2187-11-21**]  11:04 PM
                             [**2187-11-22**]  05:14 AM
                             [**2187-11-22**]  05:26 AM
   WBC
   3.6
   4.6
   6.1
   Hct
   38.4
   32.0
   32.7
   Plt
   249
   189
   229
   Cr
   1.1
   0.8
   0.8
   TCO2
   20
   22
   22
   23
   23
   Glucose
   196
   89
   84
   Other labs: PT / PTT / INR:17.5/40.9/1.6, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:1.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   # Respiratory Failure
 due to increased work of breathing and
   continued hypoxia likely secondary to flu and possible superimposed CAP
   -- RISB 119 this AM
 no extubation
 may try SBT to see how well the
   patient will tolerate it
   -- Will wean FiO2 as tolerated
   -- Check ABG after FiO2 weaned
   #. H1N1 Influenza
 confirmed by DFA at OSH
   -- Continue Tamiflu 150mg [**Hospital1 **]
   -- supportive care with tylenol prn fever, IVF
   # Hypoxia/CAP - Likely etiology is confirmed influenza, yet there is
   concern for a superimposed bacterial infection given the X-ray findings
   and increased lactate.
   -- treat flu as above
   -- F/u sputum, blood cultures
   -- Ventilated
   -- treat as ICU level CAP with vancomycin 1250mg [**Hospital1 7**], ceftriaxone and
   levofloxacin
   .
   #. Hypotension/perfusion - resolved.  BP currently stable off of
   pressors.  Lactate is trending down with the last value at 2.7 from
   ABG.  UOP was poor yesterday and she received a total of 2500 ml in
   boluses and has not required pressors
   -- IVf resuscitation
 if hypotensive/CVP drops
   -- Measure CVP, with a goal of  [**8-29**]
 bolus if necessary
   -- Goal MAP 65
   -- trend lactate
   # Coagulopathy
   -- Follow-up labs
   -- Monitor after TF are started
   -- Monitor for signs and symptoms of a bleed
   .
   #. Anion Gap Acidosis
 Gap of 15 today, likely due to elevated lactate
   -- Continue to trend
   .
   #. DM
   -- Hold oral metformin because of lactic acidosis
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac for now (amytriptyline is a home med)
   ICU Care
   Nutrition: TF at 20 cc/hr
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Arterial Line - [**2187-11-21**] 03:35 PM
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughters
   [**Name (NI) 36**] status: Full
   Disposition: ICU
   13:09

2187-11-22 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Central line replaced yesterday.  New a-line placed.
   Remains off vasopressors.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-22**] 07:42 AM
   Ceftriaxone - [**2187-11-22**] 07:42 AM
   Levofloxacin - [**2187-11-22**] 09:38 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-22**] 06:00 AM
   Omeprazole (Prilosec) - [**2187-11-22**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-22**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 97 (97 - 126) bpm
   BP: 91/53(66) {81/50(63) - 145/76(97)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 15 (5 - 15)mmHg
   Total In:
                                                                  4,409 mL
                                                                  1,082 mL
   PO:
                                                                     60 mL
   TF:
                                                                     33 mL
   IVF:
                                                                  4,049 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    589 mL
   Urine:
                                                                  1,200 mL
                                                                    589 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,209 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 286 (286 - 286) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 119
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/42/81.[**Numeric Identifier 508**]/21/-4
   Ve: 9.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: LLL, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   229 K/uL
   84 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.6 mEq/L
   26 mg/dL
   109 mEq/L
   138 mEq/L
   32.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-11-21**]  02:30 AM
                             [**2187-11-21**]  09:41 AM
                             [**2187-11-21**]  04:20 PM
                             [**2187-11-21**]  07:55 PM
                             [**2187-11-21**]  10:51 PM
                             [**2187-11-21**]  11:04 PM
                             [**2187-11-22**]  05:14 AM
                             [**2187-11-22**]  05:26 AM
   WBC
   3.6
   4.6
   6.1
   Hct
   38.4
   32.0
   32.7
   Plt
   249
   189
   229
   Cr
   1.1
   0.8
   0.8
   TCO2
   20
   22
   22
   23
   23
   Glucose
   196
   89
   84
   Other labs: PT / PTT / INR:17.5/40.9/1.6, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:1.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   63 yof now with respiratory failure in setting of influenza (likely
   H1N1) and possible bacterial LLL pneumonia.
   RESPIRATORY FAILURE -- attributed to to progressive pneumonia
   (influenza), possible evolving ARDS, perhaps superimposed LLL
   pneumonia.  Continue mechanical ventilation (lung protective strategy),
   monitor ABG, SaO2, CXR, and clinical response.   Monitor ABG.
   PULMONARY INFILTRATES -- attributed to influenza, bacterial pneumonia
   (LLL), and possible evolving ARDS.  Continue Tamiflu and empirical
   antimicrobials (Vanco, Ceftrixone, Levofloxicin).
   HYPOTENSION -- attributed to hypovolemia and sepsis.  Resolved.  Now
   off vasopressors.  Monitor BP, maintain MAP > 60 mmHg.
   FLUIDS -- hypovolemia, now improved.  Monitor I/O, maintain CVP >8 cm
   H2O.  Central line resited.
   RENAL FUNCTION -- preserved.  Monitor I/O, urine output.
   NEUROLOGICAL STATUS -- continue sedation.  Daily wake up.
   DIABETES MELLITUS
 monitor glucose, maintain <150.
   COAGULOPATHY
 possibly related to medications and poor PO intake.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-22**] 09:51 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Arterial Line - [**2187-11-21**] 03:35 PM
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-11-23 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -This AM RISB of 63
 desatted to 89% while on [**5-22**]
      ---ABG 7.37/39/71
   - Vent settings changed to AC 500/18/10/50%
   - 5 point drop in crit, ~10 point drop over the course of her stay
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-22**] 07:42 AM
   Levofloxacin - [**2187-11-22**] 09:38 AM
   Vancomycin - [**2187-11-22**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2187-11-22**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-23**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-23**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 104 (90 - 113) bpm
   BP: 86/61(76) {84/47(60) - 119/75(88)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 9 (8 - 15)mmHg
   Total In:
                                                                  2,673 mL
                                                                  1,104 mL
   PO:
                                                                     60 mL
   TF:
                                                                    454 mL
                                                                    436 mL
   IVF:
                                                                  1,919 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  1,079 mL
                                                                    215 mL
   Urine:
                                                                  1,079 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.37/39/71/22/-2
   Ve: 8.9 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GENERAL: Pleasant, intubated, sedated, opens eyes on physical
   stimulation
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi. Decreased
   breath sounds at the bases, right worse than left.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   9.1 g/dL
   133 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   31 mg/dL
   109 mEq/L
   137 mEq/L
   27.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2187-11-21**]  04:20 PM
                             [**2187-11-21**]  07:55 PM
                             [**2187-11-21**]  10:51 PM
                             [**2187-11-21**]  11:04 PM
                             [**2187-11-22**]  05:14 AM
                             [**2187-11-22**]  05:26 AM
                             [**2187-11-22**]  12:29 PM
                             [**2187-11-22**]  05:10 PM
                             [**2187-11-23**]  04:05 AM
                             [**2187-11-23**]  04:25 AM
   WBC
   4.6
   6.1
   9.6
   Hct
   32.0
   32.7
   27.7
   Plt
   189
   229
   236
   Cr
   0.8
   0.8
   1.0
   TCO2
   22
   22
   23
   23
   22
   22
   23
   Glucose
   89
   84
   133
   Other labs: PT / PTT / INR:13.7/38.4/1.2, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:858 mg/dL,
   Lactic Acid:1.6 mmol/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   # Respiratory Failure
 due to increased work of breathing and
   continued hypoxia likely secondary to flu and possible superimposed CAP
   -- RISB 63 this AM
 desat to 89% on [**5-22**]
 increased PEEP for
   re-recruitment and increased FiO2 based on sats and gas with PaO2 of 71
   -- Will wean FiO2 as tolerated
   -- Check ABG this PM
   #. H1N1 Influenza
 confirmed by DFA at OSH
   -- Continue Tamiflu 150mg [**Hospital1 **]
   -- supportive care with tylenol prn fever, IVF
   # Hypoxia/CAP - Likely etiology is confirmed influenza, yet there is
   concern for a superimposed bacterial infection given the X-ray findings
   and increased lactate.
   -- treat flu as above
   -- F/u sputum, blood cultures
   -- Ventilated
   -- Increase vancomycin 1500mg [**Hospital1 7**]
   -- Continue ceftriaxone and levofloxacin
   # Decreased H/H
 unknown etiology
 will monitor closely
   -- Check PM crit to continue to trend
   -- Active T+S
   -- Guiac stools
   .
   #. Hypotension/perfusion - resolved.  BP currently stable off of
   pressors.  Lactate is trending down with the last value at 1.6 from
   ABG.
   -- IVf resuscitation
 if hypotensive/CVP drops
   -- Goal MAP 65
   -- trend lactate
   # Coagulopathy
 INR normalizing, currently 1.2
 PT and PTT mildly
   elevated, trending toward normal
   -- Follow-up labs
   -- Monitor after TF are started
   -- Monitor for signs and symptoms of a bleed
   #. DM
   -- Hold oral metformin because of lactic acidosis
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-22**] 09:51 AM 60 mL/hour
   Replete phos with Neutrphos
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Arterial Line - [**2187-11-21**] 03:35 PM
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
   11:57
   ------ Protected Section ------
   Agree w/ excellent MS IV note above.  CXR worsening, will remain
   intubated. UOP 15-40 cc/hr (irregular) despite fluid boluses. Will
   continue to monitor UOP and adjust fluid balance accordingly.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 11211**], MD
   on:[**2187-11-23**] 15:56 ------

2187-11-23 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Unfavorable RSBI.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-23**] 07:59 AM
   Ceftriaxone - [**2187-11-23**] 07:59 AM
   Levofloxacin - [**2187-11-23**] 09:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-23**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-23**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 98 (90 - 110) bpm
   BP: 89/66(77) {84/47(60) - 119/75(88)} mmHg
   RR: 19 (16 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 18 (8 - 19)mmHg
   Total In:
                                                                  2,674 mL
                                                                  1,548 mL
   PO:
                                                                     60 mL
   TF:
                                                                    454 mL
                                                                    546 mL
   IVF:
                                                                  1,919 mL
                                                                  1,002 mL
   Blood products:
   Total out:
                                                                  1,079 mL
                                                                    455 mL
   Urine:
                                                                  1,079 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,595 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/39/71/22/-2
   Ve: 9.1 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   236 K/uL
   133 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   31 mg/dL
   109 mEq/L
   137 mEq/L
   27.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2187-11-21**]  04:20 PM
                             [**2187-11-21**]  07:55 PM
                             [**2187-11-21**]  10:51 PM
                             [**2187-11-21**]  11:04 PM
                             [**2187-11-22**]  05:14 AM
                             [**2187-11-22**]  05:26 AM
                             [**2187-11-22**]  12:29 PM
                             [**2187-11-22**]  05:10 PM
                             [**2187-11-23**]  04:05 AM
                             [**2187-11-23**]  04:25 AM
   WBC
   4.6
   6.1
   9.6
   Hct
   32.0
   32.7
   27.7
   Plt
   189
   229
   236
   Cr
   0.8
   0.8
   1.0
   TCO2
   22
   22
   23
   23
   22
   22
   23
   Glucose
   89
   84
   133
   Other labs: PT / PTT / INR:13.7/38.4/1.2, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:858 mg/dL,
   Lactic Acid:1.6 mmol/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   63 yof now with respiratory failure in setting of influenza (likely
   H1N1) and possible bacterial LLL pneumonia.
   RESPIRATORY FAILURE -- attributed to to progressive pneumonia
   (influenza), possible evolving ARDS, perhaps superimposed LLL
   pneumonia.  Continue mechanical ventilation (lung protective strategy),
   monitor ABG, SaO2, CXR, and clinical response.   Monitor ABG.
   PULMONARY INFILTRATES -- Persistent, perhaps progressive.  Attributed
   to influenza, bacterial pneumonia (LLL), and possible evolving ARDS.
   Continue Tamiflu and empirical antimicrobials (Vanco, Ceftrixone,
   Levofloxicin).
   HYPOTENSION -- attributed to hypovolemia and sepsis.  Resolved.  Now
   off vasopressors.  Monitor BP, maintain MAP > 60 mmHg.
   FLUIDS -- hypovolemia, now improved.  Monitor I/O, maintain CVP >8 cm
   H2O.  Central line resighted.
   ANEMIA -- evolving since admission, suspect related to blood loss and
   phlebotomy.  Doubt DIC or hemolysis.  Monitor stool guiac.  Type &
   screen for possible transfusion.  Monitor Hct, transfuse if Hct <25
   RENAL FUNCTION -- preserved.  Monitor I/O, urine output.
   NEUROLOGICAL STATUS -- continue sedation.  Daily wake up.
   DIABETES MELLITUS
 monitor glucose, maintain <150.
   COAGULOPATHY
 possibly related to medications and poor PO intake.
   Improving.
   NUTRITIONAL SUPPORT -- continue TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Arterial Line - [**2187-11-21**] 03:35 PM
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-11-24 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2187-11-23**]: remains intubated, poor UOP ranging 15-40 cc/hr, not
   responsive to fluids. ct monitor, Cr going up. Family very caring, w/
   LOTS of questions (incl wt is her calculated GFR). ABGs stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-23**] 07:59 AM
   Levofloxacin - [**2187-11-23**] 09:30 AM
   Vancomycin - [**2187-11-23**] 09:06 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-24**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-24**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.2
C (102.5
   HR: 118 (95 - 118) bpm
   BP: 164/74(95) {114/51(68) - 164/74(95)} mmHg
   RR: 20 (14 - 20) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 8 (8 - 19)mmHg
   Mixed Venous O2% Sat: 70 - 80
   Total In:
                                                                  3,203 mL
                                                                    619 mL
   PO:
   TF:
                                                                  1,437 mL
                                                                    459 mL
   IVF:
                                                                  1,767 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    510 mL
   Urine:
                                                                  1,035 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,168 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.35/42/101/25/-2
   Ve: 10.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   GENERAL: Pleasant, intubated, sedated, opens eyes on physical
   stimulation
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi. Decreased
   breath sounds at the bases, right worse than left.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   249 K/uL
   9.1 g/dL
   162 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   138 mEq/L
   28.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2187-11-22**]  05:26 AM
                             [**2187-11-22**]  12:29 PM
                             [**2187-11-22**]  05:10 PM
                             [**2187-11-23**]  04:05 AM
                             [**2187-11-23**]  04:25 AM
                             [**2187-11-23**]  11:48 AM
                             [**2187-11-23**]  05:06 PM
                             [**2187-11-23**]  05:35 PM
                             [**2187-11-23**]  11:25 PM
                             [**2187-11-24**]  03:55 AM
   WBC
   9.6
   10.7
   14.3
   Hct
   27.7
   29.0
   28.9
   28.6
   Plt
   [**Telephone/Fax (3) 11294**]
   Cr
   1.0
   0.9
   TCO2
   23
   22
   22
   23
   24
   Glucose
   133
   157
   162
   Other labs: PT / PTT / INR:13.1/33.3/1.1, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:858 mg/dL,
   Lactic Acid:1.1 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   # Respiratory Failure
 due to increased work of breathing and
   continued hypoxia likely secondary to flu and possible superimposed CAP
   -- RISB 63 this AM
 desat to 89% on [**5-22**]
 increased PEEP for
   re-recruitment and increased FiO2 based on sats and gas with PaO2 of 71
   -- Will wean FiO2 as tolerated
   -- Check ABG this PM
   #. H1N1 Influenza
 confirmed by DFA at OSH
   -- Continue Tamiflu 150mg [**Hospital1 **]
   -- supportive care with tylenol prn fever, IVF
   # Hypoxia/CAP - Likely etiology is confirmed influenza, yet there is
   concern for a superimposed bacterial infection given the X-ray findings
   and increased lactate.
   -- treat flu as above
   -- F/u sputum, blood cultures
   -- Ventilated
   -- Increase vancomycin 1500mg [**Hospital1 7**]
   -- Continue ceftriaxone and levofloxacin
   # Decreased H/H
 unknown etiology
 will monitor closely
   -- Check PM crit to continue to trend
   -- Active T+S
   -- Guiac stools
   .
   #. Hypotension/perfusion - resolved.  BP currently stable off of
   pressors.  Lactate is trending down with the last value at 1.6 from
   ABG.
   -- IVf resuscitation
 if hypotensive/CVP drops
   -- Goal MAP 65
   -- trend lactate
   # Coagulopathy
 INR normalizing, currently 1.2
 PT and PTT mildly
   elevated, trending toward normal
   -- Follow-up labs
   -- Monitor after TF are started
   -- Monitor for signs and symptoms of a bleed
   #. DM
   -- Hold oral metformin because of lactic acidosis
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-22**] 09:51 AM 60 mL/hour
   Replete phos with Neutrphos
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Arterial Line - [**2187-11-21**] 03:35 PM
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She will need PEEP/ sedation and FiO2 adjusted today. She is at risk
   for developing severe ARDS. We will proceed to CTA of chest to r/o
   possibility of PE given tachycardia and increasing O2 needs. Broad
   antibiotics to continue for now. BAL only to be performed if there are
   worsening signs of hypoxemia.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]

2187-11-25 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2187-11-25**] 04:00 AM
   -on FiO2 50%, satting well, improved UOP 40-100 cc/hr
   -Underwent CTA chest, which revealed no PE, but multifocal PNA
   -PM ABG 7.33/44/78/24/-2, Lactate 1.1 (technially now qualifies for
   diagnosis of ARDS)
   - Final sputum Cx
   GRAM STAIN (Final [**2187-11-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2187-11-23**]):
         SPARSE GROWTH Commensal Respiratory Flora.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-11-23**] 09:30 AM
   Ceftriaxone - [**2187-11-24**] 08:05 AM
   Vancomycin - [**2187-11-24**] 07:32 PM
   Tamiflu - [**2187-11-24**] 08:03 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-25**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 113 (106 - 120) bpm
   BP: 155/63(85) {133/55(74) - 156/70(89)} mmHg
   RR: 20 (16 - 20) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 158 kg (admission): 150 kg
   Height: 64 Inch
    CVP: 6 (5 - 24)mmHg
   Total In:
                                                                  4,588 mL
                                                                    736 mL
   PO:
   TF:
                                                                  1,443 mL
                                                                    478 mL
   IVF:
                                                                  3,054 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    390 mL
   Urine:
                                                                  1,300 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,288 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 91%
   ABG: 7.31/45/77.[**Numeric Identifier 143**]/24/-3
   Ve: 10 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GENERAL: Pleasant, intubated, sedated, opens eyes on physical
   stimulation
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi. Decreased
   breath sounds at the bases, right worse than left.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed.
   Labs / Radiology
   290 K/uL
   8.5 g/dL
   130 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.5 mEq/L
   30 mg/dL
   108 mEq/L
   138 mEq/L
   26.3 %
   18.2 K/uL
        [image002.jpg]
                             [**2187-11-23**]  04:25 AM
                             [**2187-11-23**]  11:48 AM
                             [**2187-11-23**]  05:06 PM
                             [**2187-11-23**]  05:35 PM
                             [**2187-11-23**]  11:25 PM
                             [**2187-11-24**]  03:55 AM
                             [**2187-11-24**]  03:18 PM
                             [**2187-11-24**]  04:58 PM
                             [**2187-11-25**]  12:12 AM
                             [**2187-11-25**]  06:05 AM
   WBC
   10.7
   14.3
   18.2
   Hct
   29.0
   28.9
   28.6
   26.9
   26.3
   Plt
   258
   249
   290
   Cr
   0.9
   1.4
   TCO2
   23
   24
   24
   24
   Glucose
   157
   162
   130
   Other labs: PT / PTT / INR:13.1/33.3/1.1, ALT / AST:37/53, Alk Phos / T
   Bili:466/0.8, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:858 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:274 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   # Respiratory Failure
 due to increased work of breathing and
   continued hypoxia likely secondary to flu and possible superimposed CAP
   -- RISB 63 this AM
 desat to 89% on [**5-22**]
 increased PEEP for
   re-recruitment and increased FiO2 based on sats and gas with PaO2 of 71
   -- Will wean FiO2 as tolerated
   -- Check ABG this PM
   #. H1N1 Influenza
 confirmed by DFA at OSH
   -- Continue Tamiflu 150mg [**Hospital1 **]
   -- supportive care with tylenol prn fever, IVF
   # Hypoxia/CAP - Likely etiology is confirmed influenza, yet there is
   concern for a superimposed bacterial infection given the X-ray findings
   and increased lactate.
   -- treat flu as above
   -- F/u sputum, blood cultures
   -- Ventilated
   -- Increase vancomycin 1500mg [**Hospital1 7**]
   -- Continue ceftriaxone and levofloxacin
   # Decreased H/H
 unknown etiology
 will monitor closely
   -- Check PM crit to continue to trend
   -- Active T+S
   -- Guiac stools
   .
   #. Hypotension/perfusion - resolved.  BP currently stable off of
   pressors.  Lactate is trending down with the last value at 1.6 from
   ABG.
   -- IVf resuscitation
 if hypotensive/CVP drops
   -- Goal MAP 65
   -- trend lactate
   # Coagulopathy
 INR normalizing, currently 1.2
 PT and PTT mildly
   elevated, trending toward normal
   -- Follow-up labs
   -- Monitor after TF are started
   -- Monitor for signs and symptoms of a bleed
   #. DM
   -- Hold oral metformin because of lactic acidosis
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-22**] 09:51 AM 60 mL/hour
   Replete phos with Neutrphos
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-11-21**] 01:48 AM
   18 Gauge - [**2187-11-21**] 01:48 AM
   Arterial Line - [**2187-11-21**] 03:35 PM
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2187-11-26 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   RUQ U/S - At [**2187-11-25**] 04:27 PM
   BRONCHOSCOPY - At [**2187-11-25**] 05:48 PM
   FEVER - 103.1
F - [**2187-11-26**] 06:00 AM
   Esophageal Balloon placed
   Vent: AC 430/20/20/60%
 ABG: 7.29/44/89
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-24**] 07:32 PM
   Tamiflu - [**2187-11-24**] 08:03 PM
   Ceftriaxone - [**2187-11-25**] 08:06 AM
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Cefipime - [**2187-11-25**] 03:33 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-26**] 05:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.5
C (103.1
   HR: 126 (115 - 128) bpm
   BP: 128/64(82) {119/61(80) - 130/68(85)} mmHg
   RR: 19 (15 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.4 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 15 (6 - 15)mmHg
   Total In:
                                                                  2,516 mL
                                                                    855 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    450 mL
   IVF:
                                                                    772 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    390 mL
   Urine:
                                                                  1,150 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,366 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   Compliance: 71.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.29/44/89.[**Numeric Identifier 126**]/21/-4
   Ve: 9.7 L/min
   PaO2 / FiO2: 148
   Physical Examination
   GENERAL:, Intubated, sedated, not responding to commands, cooling
   blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi. Decreased
   breath sounds at the bases, right worse than left.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   325 K/uL
   8.7 g/dL
   167 mg/dL
   1.7 mg/dL
   21 mEq/L
   5.2 mEq/L
   36 mg/dL
   112 mEq/L
   143 mEq/L
   27.5 %
   21.0 K/uL
        [image002.jpg]
                             [**2187-11-24**]  03:55 AM
                             [**2187-11-24**]  03:18 PM
                             [**2187-11-24**]  04:58 PM
                             [**2187-11-25**]  12:12 AM
                             [**2187-11-25**]  06:05 AM
                             [**2187-11-25**]  03:00 PM
                             [**2187-11-25**]  03:27 PM
                             [**2187-11-26**]  12:22 AM
                             [**2187-11-26**]  04:32 AM
                             [**2187-11-26**]  05:07 AM
   WBC
   14.3
   18.2
   21.0
   Hct
   28.6
   26.9
   26.3
   27.5
   27.5
   Plt
   249
   290
   325
   Cr
   0.9
   1.4
   1.5
   1.7
   TCO2
   24
   24
   25
   24
   22
   Glucose
   162
   130
   172
   167
   Other labs: PT / PTT / INR:13.6/32.9/1.2, ALT / AST:26/70, Alk Phos / T
   Bili:404/0.6, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:274 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
   -- change ventillator settings to be in compliance with ARDSnet
   ventillation
   -- Continue esophageal balloon to permit optimization of PEEP
   -- Decrease FiO2 to 50% and f/u abg
   -- Continue to follow serial ABGs
   #. Pneumonia / increasing leukocytosis and fevers
 Questionable H1N1
   Influenza confirmed by DFA at OSH. Patient likely has bacterial
   superinfection vs. primary influenza pneumonia now concerning for VAP.
   Other possible etiologies include bacteremia, UTI, and line infection.
   Pt was pancultured overnight.
   -- Re-swab for Flu
   -- Continue Tamiflu 150mg [**Hospital1 **]
   -- F/u pending cultures
   -- Continue cefepime for pseudomonal coverage reanally dosed due to ARF
   and low clearance
   -- Continue vancomycin 1250 QD as renal dosing
 f/u levels for dosing
   -- Tylenol PRN fever
   -- ID consult for antimicrobial coverage
   #. Anemia
 unknown etiology
 will monitor closely
   -- Check PM crit to continue to trend
   -- Active T+S
   .
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy.
   - trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   #. DM
   -- Continue covering with SSI
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue lipitor
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-26**] 03:36 AM 60 mL/hour
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter, family
   [**Name2 (NI) 36**] status: Full code
   Disposition: ICU
   13:35

2187-11-26 10:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 y.o. woman with H1N1 and superimposed bacterial PNA.
   24 Hour Events:
 ULTRASOUND - At [**2187-11-25**] 04:27 PM:  Fatty liver, has had CCY in the
   past
 BRONCHOSCOPY - At [**2187-11-25**] 05:48 PM:  distal mucus, no purulence
   noted
 FEVER - 103.1
F - [**2187-11-26**] 06:00 AM
 ESOPHAGEAL BALLOON PLACED
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-24**] 07:32 PM
   Tamiflu - [**2187-11-24**] 08:03 PM
   Ceftriaxone - [**2187-11-25**] 08:06 AM
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Cefipime - [**2187-11-25**] 03:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-26**] 05:36 AM
   Omeprazole (Prilosec) - [**2187-11-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-26**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.5
C (103.1
   HR: 127 (116 - 128) bpm
   BP: 132/66(85) {119/61(80) - 132/68(85)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.4 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  2,516 mL
                                                                  1,108 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    605 mL
   IVF:
                                                                    772 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    530 mL
   Urine:
                                                                  1,150 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,366 mL
                                                                    578 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 71.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/44/89.[**Numeric Identifier 126**]/21/-4
   Ve: 10 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterolaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   325 K/uL
   167 mg/dL
   1.7 mg/dL
   21 mEq/L
   5.2 mEq/L
   36 mg/dL
   112 mEq/L
   143 mEq/L
   27.5 %
   21.0 K/uL
        [image002.jpg]
                             [**2187-11-24**]  03:55 AM
                             [**2187-11-24**]  03:18 PM
                             [**2187-11-24**]  04:58 PM
                             [**2187-11-25**]  12:12 AM
                             [**2187-11-25**]  06:05 AM
                             [**2187-11-25**]  03:00 PM
                             [**2187-11-25**]  03:27 PM
                             [**2187-11-26**]  12:22 AM
                             [**2187-11-26**]  04:32 AM
                             [**2187-11-26**]  05:07 AM
   WBC
   14.3
   18.2
   21.0
   Hct
   28.6
   26.9
   26.3
   27.5
   27.5
   Plt
   249
   290
   325
   Cr
   0.9
   1.4
   1.5
   1.7
   TCO2
   24
   24
   25
   24
   22
   Glucose
   162
   130
   172
   167
   Other labs: PT / PTT / INR:13.6/32.9/1.2, ALT / AST:26/70, Alk Phos / T
   Bili:404/0.6, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:274 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Secondary to H1N1 pneumonia, probable superimposed bacterial
   infection.  Continues to spike high fevers.  WBC increased,
   differential pending.  CTS changed to cefipime yesterday.  A-line
   placed overnight.  Left IJ placed on [**11-21**].  Site without erythema or
   discharge.  No diarrhea.  No rash. Also concerned for complicated
   parapneumonic effusion.  If persistently febrile will repeat CT to
   evaluate need for thorocentesis.  Also at risk for meningitis, increase
   abx to CNS dosing.
 DIABETES MELLITUS (DM), TYPE II:  On regular insulin sliding scale.
 ACUTE RENAL FAILURE: Secondary to IV contrast dye.  Cr increased.
   Adjust med dosing.  Follow I/Os.
 DEPRESSION:  On home meds.
 ANEMIA:  Stable hct.  Follow [**Hospital1 **] labs.  GAS.
 TONGUE ULCER:  Removed oral bite block given ulcer on tongue.  Mouth
   care per nursing.
 ALTERATION IN NUTRITION:  Tube feeds at goal.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-26**] 03:36 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   Family meeting held from 1:30 to 2:00 pm.  Patient
s 3 sons and
   daughter-in-law were present. I updated the family on the patient
   medical status.  They are aware that she has extensive bilateral
   pneumonia with presumed influenza with superimposed bacterial infection
   as well as acute renal failure.  I let them know that I had spoken to
   [**Hospital3 6630**] microbiology laboratory and I was not able to get from
   them a confirmation that a nasal swab had been sent at that hospital
   for influenza so it is not clear that H1N1 was confirmed.  Our study
   was suboptimal and is being repeated.  Also let them know that an ID
   consult was obtained and they will be seeing the patient later today.
   The family is aware that the patient is critically ill and requiring
   high levels of ventilatory support.  At this point they are requesting
   daily family meetings to update them on the course given the complexity
   of her illness.
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2187-11-26**] 15:06 ------

2187-11-27 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Overnight, fevers to 100.6
F.  O2 satws ~90% last night,  RR on the
   vent increased to 24.  Latest ABG : 7.29/46/100 on AC 470/24/20/50%.
   This AM, pt. is intubated and sedated.  Currently afebrile.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-25**] 08:06 AM
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Vancomycin - [**2187-11-26**] 12:17 PM
   Cefipime - [**2187-11-26**] 02:39 PM
   Ciprofloxacin - [**2187-11-26**] 06:21 PM
   Tamiflu - [**2187-11-26**] 08:17 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2187-11-26**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-27**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-27**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.8
C (98.2
   HR: 88 (88 - 127) bpm
   BP: 122/60(81) {110/52(71) - 139/74(96)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.4 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  3,441 mL
                                                                    824 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    443 mL
   IVF:
                                                                  1,560 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    185 mL
   Urine:
                                                                  1,245 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                    639 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (430 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 34 cmH2O
   Compliance: 33.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.29/46/99.[**Numeric Identifier 508**]/21/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GENERAL:, Intubated, sedated, not responding to commands, cooling
   blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated coarse breath sounds, diffuse rhonchi. Decreased
   breath sounds at the bases, right worse than left.
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   293 K/uL
   8.3 g/dL
   171 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.9 mEq/L
   46 mg/dL
   110 mEq/L
   138 mEq/L
   25.9 %
   22.7 K/uL
        [image002.jpg]
                             [**2187-11-26**]  12:22 AM
                             [**2187-11-26**]  04:32 AM
                             [**2187-11-26**]  05:07 AM
                             [**2187-11-26**]  12:51 PM
                             [**2187-11-26**]  02:40 PM
                             [**2187-11-26**]  08:01 PM
                             [**2187-11-26**]  09:57 PM
                             [**2187-11-26**]  11:49 PM
                            [**2187-11-27**]  04:04 AM
                            [**2187-11-27**]  04:32 AM
   WBC
   21.0
   24.2
   22.7
   Hct
   27.5
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 11386**]
   Cr
   1.7
   1.7
   TCO2
   24
   22
   23
   23
   23
   22
   23
   Glucose
   167
   171
   Other labs: PT / PTT / INR:12.9/37.0/1.1, ALT / AST:25/96, Alk Phos / T
   Bili:378/0.5, Amylase / Lipase:22/22, Differential-Neuts:92.3 %,
   Band:10.0 %, Lymph:4.6 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:1291 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:590 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, found to have H1N1
   influenza and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
   -- continue ventilation per ARDSnet protocol
   -- Continue esophageal balloon to permit optimization of PEEP
   -- Continue FiO2 to 50%, wean as tolerated.
   -- Continue to follow serial ABGs
   #. Pneumonia / increasing leukocytosis and fevers
 Questionable H1N1
   Influenza, no record at OSH, negative DFA yesterday. Patient likely has
   bacterial superinfection vs. primary influenza pneumonia now concerning
   for VAP.  Other possible etiologies include bacteremia, UTI, and line
   infection.
   -- Continue Tamiflu 150mg [**Hospital1 **]
   -- F/u pending cultures
   -- Continue cefepime for pseudomonal coverage reanally dosed due to ARF
   and low clearance
   -- Continue vancomycin 1250 QD as renal dosing
 f/u levels for dosing
   -- Tylenol PRN fever
   -- Appreciate continued ID recs
   #. Anemia
 unknown etiology
 will monitor closely
   -- Check PM Hct, constinue to trend closely
   -- Active T+S
   .
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy.
   Cr currently stable.
   - trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   #. DM
   -- Continue covering with SSI
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue outpatient Lipitor
   .
   # Depression
   -- Continue outpatient prozac and amytriptyline
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-26**] 03:36 AM 60 mL/hour
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   A.line
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter, family
   [**Name2 (NI) 36**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   ICU Attending Note
   I saw and examined the patient with the medical residents and ICU
   fellow on morning rounds, discussed assessment and plan in detail.  I
   agree with the plan as detailed in Dr. [**Last Name (STitle) **]
s note and would add the
   following.  Ventilated, sedated and appears comfortable.  No secretions
   reported per ETT.  Lungs with decreased BS dependently, scattered
   crackles anterolaterally.  Abdomen soft, distended, rare BS.  Cr stable
   at 1.7.  WBC slightly decreased.  Hct slightly down but also almost 2 L
   positive fluid balance.  Could be dilutional.  Trial of diuresis to see
   if that will improve respiratory status.
   Patient remains critically ill
   Time spent:  50 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2187-11-27**] 19:19 ------

2187-11-27 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - FEVER - 100.6
 overnight
   - Desat to 90% last evening
   - Increased RR to 24

ABG : 7.29/46/100 :: AC 470/24/20/50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-25**] 08:06 AM
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Vancomycin - [**2187-11-26**] 12:17 PM
   Cefipime - [**2187-11-26**] 02:39 PM
   Ciprofloxacin - [**2187-11-26**] 06:21 PM
   Tamiflu - [**2187-11-26**] 08:17 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2187-11-26**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-27**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-27**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.8
C (98.2
   HR: 88 (88 - 127) bpm
   BP: 122/60(81) {110/52(71) - 139/74(96)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.4 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  3,441 mL
                                                                    815 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    438 mL
   IVF:
                                                                  1,560 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    185 mL
   Urine:
                                                                  1,245 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (430 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 34 cmH2O
   Compliance: 33.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.29/46/99.[**Numeric Identifier 508**]/21/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left GENERAL:,
   Intubated, sedated, not responding to commands, cooling blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Tongue laceration/pressure ulcer.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated mostly clear breath sounds, some rhonchi on the
   posterior lung fields, improved exam. Improving breath sounds at the
   bases, bilaterally..
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ pitting edema in her UE bilaterally, 2+ dorsalis pedis/
   posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   293 K/uL
   8.3 g/dL
   171 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.9 mEq/L
   46 mg/dL
   110 mEq/L
   138 mEq/L
   25.9 %
   22.7 K/uL
        [image002.jpg]
                             [**2187-11-26**]  12:22 AM
                             [**2187-11-26**]  04:32 AM
                             [**2187-11-26**]  05:07 AM
                             [**2187-11-26**]  12:51 PM
                             [**2187-11-26**]  02:40 PM
                             [**2187-11-26**]  08:01 PM
                             [**2187-11-26**]  09:57 PM
                             [**2187-11-26**]  11:49 PM
                            [**2187-11-27**]  04:04 AM
                            [**2187-11-27**]  04:32 AM
   WBC
   21.0
   24.2
   22.7
   Hct
   27.5
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 11386**]
   Cr
   1.7
   1.7
   TCO2
   24
   22
   23
   23
   23
   22
   23
   Glucose
   167
   171
   Other labs: PT / PTT / INR:12.9/37.0/1.1, ALT / AST:25/96, Alk Phos / T
   Bili:378/0.5, Amylase / Lipase:22/22, Differential-Neuts:92.3 %,
   Band:10.0 %, Lymph:4.6 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:1291 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:590 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 current settings 470/24/20/50%
   -- Continue esophageal balloon to permit optimization of PEEP
   -- Decrease FiO2 to 40% and f/u abg
   -- Continue to follow serial ABGs
   #. Pneumonia / increasing leukocytosis and fevers
 Questionable H1N1
   Influenza confirmed by DFA at OSH. Patient likely has bacterial
   superinfection vs. primary influenza pneumonia now concerning for VAP.
   Other possible etiologies include bacteremia, UTI, and line infection.
   Pt was pancultured overnight.
   -- Re-swab for Flu found to be negative
 Ask ID if tamiflu will make
   DFA negative
 follow up with [**Hospital 2653**] hospital to determine if there was
   ever a positive DFA documented
   -- Continue Tamiflu 150mg [**Hospital1 **] until afebrile for 48 hours
   -- F/u pending cultures
   -- Continue cefepime (2g daily) for pseudomonal coverage renally dosed
   due to ARF and low clearance
   -- Continue vancomycin 1250 QD as renal dosing
 f/u levels for dosing
 next level, 30 mins before [**11-28**] dose
   -- Cipro 400 mg daily added for double coverage of Pseudomonas
   continue treatment
   -- Tylenol PRN for fever
   -- F/u ID recs on potential treatments
   #. Anemia
 unknown etiology
 will monitor closely
 positive 14
   liters over her stay
   -- Check PM crit to continue to trend
   -- Active T+S
   -- Check haptoglobin in the setting of increasing LDH
 Bili is stable
   -- HCT transfusion goal of 24
   -- If she continues to trend down, and has no obvious source of bleed,
   consider pan scan
   .
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy.
   -- trend Cr
   -- avoid nephrotoxins
   -- renally dose meds
   -- Fluid balance goal of even to 500ml positive
 if grossly positive,
   add a small dose of lasix to keep goal at even to 500 positive
   .
   #. DM
   -- Continue covering with SSI
   -- Add 5 units of Lantus daily for long acting coverage
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-26**] 08:15 PM 60 mL/hour
   Glycemic Control:  SSI and 5 of lantus
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter (family present frequently)
   Code status: Full code
   Disposition: ICU
   11:18

2187-11-28 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2187-11-27**] 12:17 PM
 FEVER - 102.4
F - [**2187-11-27**] 09:00 PM
   -PM Hct 25.5 (stable)
   -Started 5 units Glargine
   -Pull ETT 1.5 cm
   -Haptoglobin PM 571 up from 252.
   PM ABG: 7.28/47/74/23/-4
   -Started Lasix gtt 4-->8 as she was 1.5 liters positive.
   -Febrile to 101s in afternoon, a little tachycardia.
   -ID recommended d/c Vanc, but we are uncomfortable d/cing for now
   -On FiO2 40% in PM.
   PEEP decerased to 18.  ABG 7.30/42/129/21/-5.  Sedation increased as
   the pt. was fighting the vent and disconnected!
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-25**] 08:06 AM
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Tamiflu - [**2187-11-26**] 08:17 PM
   Vancomycin - [**2187-11-27**] 08:11 AM
   Cefipime - [**2187-11-27**] 02:12 PM
   Ciprofloxacin - [**2187-11-27**] 05:10 PM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Fentanyl - [**2187-11-28**] 01:40 AM
   Midazolam (Versed) - [**2187-11-28**] 03:02 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-28**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-28**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.8
C (101.8
   HR: 96 (93 - 115) bpm
   BP: 116/56(75) {105/53(70) - 144/73(95)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.5 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  3,306 mL
                                                                    938 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    442 mL
   IVF:
                                                                  1,570 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    610 mL
   Urine:
                                                                  1,065 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,241 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/37/125/17/-4
   Ve: 10.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left GENERAL:,
   Intubated, sedated, not responding to commands, cooling blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Tongue laceration/pressure ulcer.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated mostly clear breath sounds, some rhonchi on the
   posterior lung fields, improved exam. Improving breath sounds at the
   bases, bilaterally..
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ pitting edema in her UE bilaterally, 2+ dorsalis pedis/
   posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   325 K/uL
   7.7 g/dL
   119 mg/dL
   1.9 mg/dL
   17 mEq/L
   5.2 mEq/L
   59 mg/dL
   110 mEq/L
   138 mEq/L
   24.1 %
   22.5 K/uL
        [image002.jpg]
                             [**2187-11-26**]  09:57 PM
                             [**2187-11-26**]  11:49 PM
                            [**2187-11-27**]  04:04 AM
                            [**2187-11-27**]  04:32 AM
                            [**2187-11-27**]  01:54 PM
                            [**2187-11-27**]  02:04 PM
                            [**2187-11-27**]  10:32 PM
                            [**2187-11-28**]  01:10 AM
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
   WBC
   22.7
   22.5
   Hct
   25.9
   25.5
   24.1
   Plt
   293
   325
   Cr
   1.7
   1.9
   TCO2
   23
   22
   23
   23
   21
   22
   21
   Glucose
   171
   119
   Other labs: PT / PTT / INR:12.9/37.0/1.1, ALT / AST:34/113, Alk Phos /
   T Bili:393/0.6, Amylase / Lipase:22/22, Differential-Neuts:92.3 %,
   Band:10.0 %, Lymph:4.6 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:1291 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:474 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 current settings 470/24/20/50%
   -- Continue esophageal balloon to permit optimization of PEEP
   -- Decrease FiO2 to 40% and f/u abg
   -- Continue to follow serial ABGs
   #. Pneumonia / increasing leukocytosis and fevers
 Questionable H1N1
   Influenza confirmed by DFA at OSH. Patient likely has bacterial
   superinfection vs. primary influenza pneumonia now concerning for VAP.
   Other possible etiologies include bacteremia, UTI, and line infection.
   Pt was pancultured overnight.
   -- Re-swab for Flu found to be negative
 Ask ID if tamiflu will make
   DFA negative
 follow up with [**Hospital 2653**] hospital to determine if there was
   ever a positive DFA documented
   -- Continue Tamiflu 150mg [**Hospital1 **] until afebrile for 48 hours
   -- F/u pending cultures
   -- Continue cefepime (2g daily) for pseudomonal coverage renally dosed
   due to ARF and low clearance
   -- Continue vancomycin 1250 QD as renal dosing
 f/u levels for dosing
 next level, 30 mins before [**11-28**] dose
   -- Cipro 400 mg daily added for double coverage of Pseudomonas
   continue treatment
   -- Tylenol PRN for fever
   -- F/u ID recs on potential treatments
   #. Anemia
 unknown etiology
 will monitor closely
 positive 14
   liters over her stay
   -- Check PM crit to continue to trend
   -- Active T+S
   -- Check haptoglobin in the setting of increasing LDH
 Bili is stable
   -- HCT transfusion goal of 24
   -- If she continues to trend down, and has no obvious source of bleed,
   consider pan scan
   .
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy.
   -- trend Cr
   -- avoid nephrotoxins
   -- renally dose meds
   -- Fluid balance goal of even to 500ml positive
 if grossly positive,
   add a small dose of lasix to keep goal at even to 500 positive
   .
   #. DM
   -- Continue covering with SSI
   -- Add 5 units of Lantus daily for long acting coverage
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-26**] 08:15 PM 60 mL/hour
   Glycemic Control:  SSI and 5 of lantus
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter (family present frequently)
   Code status: Full code
   Disposition: ICU

2187-11-28 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   STOOL CULTURE - At [**2187-11-27**] 12:17 PM
   FEVER - 102.4
F - [**2187-11-27**] 09:00 PM
   PEEP decreased to 16
   Lasix Drip started (2L positive)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2187-11-25**] 08:06 AM
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Tamiflu - [**2187-11-26**] 08:17 PM
   Vancomycin - [**2187-11-27**] 08:11 AM
   Cefipime - [**2187-11-27**] 02:12 PM
   Ciprofloxacin - [**2187-11-27**] 05:10 PM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Fentanyl - [**2187-11-28**] 01:40 AM
   Midazolam (Versed) - [**2187-11-28**] 03:02 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-28**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.8
C (101.8
   HR: 96 (93 - 115) bpm
   BP: 116/56(75) {105/53(70) - 144/73(95)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.5 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  3,306 mL
                                                                    924 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    435 mL
   IVF:
                                                                  1,570 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    610 mL
   Urine:
                                                                  1,065 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,241 mL
                                                                    314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/37/125/17/-4
   Ve: 10.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   GENERAL:, Intubated, sedated, not responding to commands, cooling
   blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Tongue laceration/pressure ulcer.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated mostly clear breath sounds, some rhonchi on the
   posterior lung fields, improved exam. Improving breath sounds at the
   bases, bilaterally..
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ pitting edema in her UE bilaterally, 2+ dorsalis pedis/
   posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   325 K/uL
   7.7 g/dL
   119 mg/dL
   1.9 mg/dL
   17 mEq/L
   5.2 mEq/L
   59 mg/dL
   110 mEq/L
   138 mEq/L
   24.1 %
   22.5 K/uL
        [image002.jpg]
                             [**2187-11-26**]  09:57 PM
                             [**2187-11-26**]  11:49 PM
                            [**2187-11-27**]  04:04 AM
                            [**2187-11-27**]  04:32 AM
                            [**2187-11-27**]  01:54 PM
                            [**2187-11-27**]  02:04 PM
                            [**2187-11-27**]  10:32 PM
                            [**2187-11-28**]  01:10 AM
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
   WBC
   22.7
   22.5
   Hct
   25.9
   25.5
   24.1
   Plt
   293
   325
   Cr
   1.7
   1.9
   TCO2
   23
   22
   23
   23
   21
   22
   21
   Glucose
   171
   119
   Other labs: PT / PTT / INR:12.9/37.0/1.1, ALT / AST:34/113, Alk Phos /
   T Bili:393/0.6, Amylase / Lipase:22/22, Differential-Neuts:92.3 %,
   Band:10.0 %, Lymph:4.6 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:1291 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:474 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 current settings 470/24/16/40%
   -- Maintain FiO2 at 40% and consider dropping PEEP 14 and f/u abg
   -- Continue to follow serial ABGs
   #. Pneumonia / increasing leukocytosis and fevers
 Questionable H1N1
   Influenza confirmed by DFA at OSH. Patient likely has bacterial
   superinfection vs. primary influenza pneumonia now concerning for VAP.
   Other possible etiologies include bacteremia, UTI, and line infection.
   Pt was pancultured overnight.
   -- Re-swab for Flu found to be negative
 follow up with [**Hospital 2653**] hospital
   to determine if there was ever a positive DFA documented
   -- Continue Tamiflu 150mg [**Hospital1 **] until afebrile for 48 hours
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending)
   -- Continue cefepime (2g daily) for pseudomonal coverage renally dosed
   due to ARF and low clearance
   -- Continue vancomycin 1250 QD as renal dosing
 f/u levels for dosing
   -- Cipro 400 mg daily added for double coverage of Pseudomonas
   continue treatment
   -- Tylenol PRN for fever
   -- F/u ID recs on potential treatments
   #. Anemia
 unknown etiology
 will monitor closely
 positive 14
   liters over her stay
 HCT continuing to drop
   -- Check PM crit to continue to trend
   -- Active T+S
   -- Check haptoglobin in the setting of increasing LDH
 Bili is stable
   -- HCT transfusion goal of 24
 currently at 24.1 if she drops with the
   PM check transfuse 2 units
   -- If she continues to trend down, and has no obvious source of bleed,
   consider pan scan
   .
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy
   now with potential pre-renal component with BUN/Creatinine ratio
   increasing.
   -- Check urine lytes and eos
   -- Check CVP
   -- Consider transfusion
 trend HCT and Cr
   -- trend Cr
   -- avoid nephrotoxins
   -- renally dose meds
   -- Fluid balance goal of even to 500ml positive
 if grossly positive,
   add a small dose of lasix to keep goal at even to 500 positive
   .
   #. DM
   -- Continue covering with SSI
   -- Add 5 units of Lantus daily for long acting coverage
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-26**] 08:15 PM 60 mL/hour
   Glycemic Control:  SSI and 5 of lantus
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter (family present frequently)
   Code status: Full code
   Disposition: ICU
   Agree w/ excellent MS IV note above

2187-11-28 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2187-11-27**] 12:17 PM
 FEVER - 102.4
F - [**2187-11-27**] 09:00 PM
   PEEP decreased to 16
   Lasix drip started, still positive fluid balance
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-11-25**] 10:25 AM
   Tamiflu - [**2187-11-26**] 08:17 PM
   Vancomycin - [**2187-11-27**] 08:11 AM
   Cefipime - [**2187-11-27**] 02:12 PM
   Ciprofloxacin - [**2187-11-27**] 05:10 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Fentanyl - [**2187-11-28**] 01:40 AM
   Midazolam (Versed) - [**2187-11-28**] 03:02 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-28**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: No(t) NPO, Tube feeds
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-28**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.3
C (100.9
   HR: 99 (94 - 115) bpm
   BP: 124/63(83) {105/53(70) - 144/73(95)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.5 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  3,306 mL
                                                                  1,332 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    608 mL
   IVF:
                                                                  1,570 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                  1,010 mL
   Urine:
                                                                  1,065 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,241 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/37/125/17/-4
   Ve: 10.9 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   325 K/uL
   119 mg/dL
   1.9 mg/dL
   17 mEq/L
   5.2 mEq/L
   59 mg/dL
   110 mEq/L
   138 mEq/L
   24.1 %
   22.5 K/uL
        [image002.jpg]
                             [**2187-11-26**]  09:57 PM
                             [**2187-11-26**]  11:49 PM
                            [**2187-11-27**]  04:04 AM
                            [**2187-11-27**]  04:32 AM
                            [**2187-11-27**]  01:54 PM
                            [**2187-11-27**]  02:04 PM
                            [**2187-11-27**]  10:32 PM
                            [**2187-11-28**]  01:10 AM
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
   WBC
   22.7
   22.5
   Hct
   25.9
   25.5
   24.1
   Plt
   293
   325
   Cr
   1.7
   1.9
   TCO2
   23
   22
   23
   23
   21
   22
   21
   Glucose
   171
   119
   Other labs: PT / PTT / INR:13.1/36.9/1.1, ALT / AST:34/113, Alk Phos /
   T Bili:393/0.6, Amylase / Lipase:22/22, Differential-Neuts:92.3 %,
   Band:10.0 %, Lymph:4.6 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:1291 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:474 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: Persistent bilateral alveolar infiltrates, slightly
   worse.  ETT in good position.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Persistently febrile. Line sites are without erythema or discharge.
   Cultures remain no growth to date.  WBC remains at 22.  Plan to repeat
   urine and blood culture, send sputum for GS C & S.  Send fungal
   isolators.  Stool sent for C. Diff.  Given persistent fever and
   leukocytosis will send for head/chest/abdominal CT with oral contrast.
   Particularly concerned for parapneumonic effusion that may need further
   evaluation - possible thorocentesis.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Have been able to decrease PEEP.
 ACUTE RENAL FAILURE:  Cr increased today in setting of starting lasix
   gtt.  [**Month (only) 51**] be too aggressive in diuresis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]);  In setting of multifocal
   pneumonia, presumed influenza with superimposed bacterial pneumonia.
 DIABETES MELLITUS (DM), TYPE II:  RISS, lantus.
 ALTERATION IN NUTRITION:  On tube feeds at goal.
 ANEMIA:  Hct slowly drifting down, likely dilutional component and
   related to ongoing phlebotomy.  GAS.  Transfuse 1 u pRBCs.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-28**] 05:27 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2187-11-29 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT of Chest/Abd
 no collection
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2187-11-26**] 08:17 PM
   Vancomycin - [**2187-11-27**] 08:11 AM
   Ciprofloxacin - [**2187-11-27**] 05:10 PM
   Cefipime - [**2187-11-28**] 04:39 PM
   Infusions:
   Fentanyl - 300 mcg/hour
   Furosemide (Lasix) - 6 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-28**] 10:33 PM
   Fentanyl - [**2187-11-29**] 12:00 AM
   Midazolam (Versed) - [**2187-11-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-29**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38
C (100.4
   HR: 104 (88 - 107) bpm
   BP: 117/53(73) {100/48(64) - 148/64(92)} mmHg
   RR: 24 (22 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 120.5 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 15 (9 - 15)mmHg
   Total In:
                                                                  2,851 mL
                                                                    910 mL
   PO:
   TF:
                                                                  1,107 mL
                                                                    460 mL
   IVF:
                                                                  1,454 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                    740 mL
   Urine:
                                                                  3,780 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -929 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 26.1 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/40/66/20/-3
   Ve: 10.6 L/min
   PaO2 / FiO2: 132
   Physical Examination
   GENERAL:, Intubated, sedated, not responding to commands, cooling
   blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Tongue laceration/pressure ulcer.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated mostly clear breath sounds on left, diffuse rhonchi
   on right (possible positioning) some rhonchi on the posterior lung
   fields...
   ABDOMEN: obese, hypoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ pitting edema in her UE bilaterally, 1+ pitting edema
   in her LE bilaterally 2+ dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   403 K/uL
   8.3 g/dL
   128 mg/dL
   2.2 mg/dL
   20 mEq/L
   5.0 mEq/L
   70 mg/dL
   109 mEq/L
   140 mEq/L
   26.3 %
   18.0 K/uL
        [image002.jpg]
                            [**2187-11-27**]  10:32 PM
                            [**2187-11-28**]  01:10 AM
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
                            [**2187-11-28**]  11:21 AM
                            [**2187-11-28**]  02:32 PM
                            [**2187-11-28**]  10:30 PM
                            [**2187-11-29**]  01:17 AM
                            [**2187-11-29**]  03:21 AM
                            [**2187-11-29**]  03:39 AM
   WBC
   22.5
   20.4
   18.6
   18.0
   Hct
   24.1
   24.7
   26.1
   26.3
   Plt
   [**Telephone/Fax (3) 11437**]03
   Cr
   1.9
   2.1
   2.0
   2.2
   TCO2
   21
   22
   21
   22
   23
   23
   Glucose
   119
   93
   146
   128
   Other labs: PT / PTT / INR:13.5/34.6/1.2, CK / CKMB / Troponin-T:41//,
   ALT / AST:39/108, Alk Phos / T Bili:382/0.6, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:1.9
   g/dL, LDH:389 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 current settings 470/24/16/50% - PaO2 66
 goal of better than 65
   -- Maintain FiO2 at 50% and PEEP of 16 and f/u abg at 12 to determine
   where we are
   -- Continue to follow serial ABGs
   #. Pneumonia / increasing leukocytosis and fevers
 Questionable H1N1
   Influenza confirmed by DFA at OSH. Patient likely has bacterial
   superinfection vs. primary influenza pneumonia now concerning for VAP.
   Other possible etiologies include bacteremia, UTI, and line infection.
   Pt was pancultured overnight.  CT negative for effusion or fluid
   collection in the belly yesterday
 Fevers are improving
   -- Re-swab for Flu found to be negative
s clinical judgment is
   that this is flu
   -- Continue Tamiflu 150mg [**Hospital1 **] until afebrile for 48 hours
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending)
   -- Continue cefepime (2g daily) for pseudomonal coverage renally dosed
   due to ARF and low clearance
   -- Continue vancomycin 1250 QD as renal dosing
 f/u levels for dosing
   -- Cipro 400 mg daily added for double coverage of Pseudomonas
   continue treatment
   -- Tylenol PRN for fever
   -- F/u ID recs on potential treatments
   #. Anemia
 unknown etiology
 will monitor closely
 positive 14
   liters over her stay
 HCT improved today
 No blood given due to
   fevers
   -- Check PM crit to continue to trend
   -- Active T+S
   -- HCT transfusion goal of 24
 currently at 26.2
   .
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy
   now with potential pre-renal component with BUN/Creatinine ratio
   increasing.
   -- Check urine lytes and eos
   -- Check CVP
   -- Consider transfusion for intravascular repletion and perfusion if
   she is afebrile
 trend HCT and Cr
   -- trend Cr
   -- avoid nephrotoxins
   -- renally dose meds
   -- Fluid balance goal of even to 500ml positive
 continue lasix drip
   .
   #. DM
   -- Continue covering with SSI and glargine 5
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 60 mL/hour
   Glycemic Control:  SSI and glargine 5
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter and family
   Code status: Full code
   Disposition: ICU
   Agree with excellent MS note above. Will await final reads of CT scans,
   change tamiflu to 75mg [**Hospital1 7**] given renal insufficiency, check vanc level
   in AM. Holding lasix gtt and d/c statin given elevated LFTs.

2187-11-29 13:22:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, multi-focal pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.1
F - [**2187-11-28**] 01:00 PM
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2187-11-26**] 08:17 PM
   Ciprofloxacin - [**2187-11-27**] 05:10 PM
   Cefipime - [**2187-11-28**] 04:39 PM
   Vancomycin - [**2187-11-29**] 09:30 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-28**] 10:33 PM
   Fentanyl - [**2187-11-29**] 12:00 AM
   Midazolam (Versed) - [**2187-11-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2187-11-29**] 01:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.6
C (99.6
   HR: 100 (88 - 111) bpm
   BP: 122/59(80) {100/48(64) - 148/66(92)} mmHg
   RR: 24 (22 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 120.5 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  2,851 mL
                                                                  1,878 mL
   PO:
   TF:
                                                                  1,107 mL
                                                                    775 mL
   IVF:
                                                                  1,454 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                  1,220 mL
   Urine:
                                                                  3,780 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -929 mL
                                                                    658 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 42.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/40/66/20/-3
   Ve: 10.4 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered bilaterally,
   Diminished: bases)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   403 K/uL
   128 mg/dL
   2.2 mg/dL
   20 mEq/L
   5.0 mEq/L
   70 mg/dL
   109 mEq/L
   140 mEq/L
   26.3 %
   18.0 K/uL
        [image002.jpg]
                            [**2187-11-27**]  10:32 PM
                            [**2187-11-28**]  01:10 AM
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
                            [**2187-11-28**]  11:21 AM
                            [**2187-11-28**]  02:32 PM
                            [**2187-11-28**]  10:30 PM
                            [**2187-11-29**]  01:17 AM
                            [**2187-11-29**]  03:21 AM
                            [**2187-11-29**]  03:39 AM
   WBC
   22.5
   20.4
   18.6
   18.0
   Hct
   24.1
   24.7
   26.1
   26.3
   Plt
   [**Telephone/Fax (3) 11437**]03
   Cr
   1.9
   2.1
   2.0
   2.2
   TCO2
   21
   22
   21
   22
   23
   23
   Glucose
   119
   93
   146
   128
   Other labs: PT / PTT / INR:13.5/34.6/1.2, CK / CKMB / Troponin-T:41//,
   ALT / AST:39/108, Alk Phos / T Bili:382/0.6, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:1.9
   g/dL, LDH:389 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Persistently febrile, no findings on CTs yesterday to suggest source
   that needs further workup.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Requred increase back to 50%, PEEP increased from 14 to 16 given
   borderline P02.  Chest CT did not show significant pleural effusions.
 DIABETES MELLITUS (DM), TYPE II:  RISS.
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to presumed
   influenza and superimposed bacterial pneumonia.  Continues broad
   spectrum antibiotics.  WBC stable at 18.  No evidence of significant
   fluid collection in sinuses.  Adjusting tamaflu given renal failure.
 ANEMIA:  Transfused 1 u pRBCs yesterday, hct 24 to 26.
 ACTUE RENAL FAILURE:  Nonoliguric.  Likely multifactorial, ATN
   secondary to contrast dye.  Cr has continued to rise on the lasix
   drip.  Discontinue lasix.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2187-11-30 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   FEVER - 102.3
F - [**2187-11-29**] 09:00 PM
   New diffuse erythematous maculopapular rash
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-29**] 09:30 AM
   Cefipime - [**2187-11-29**] 04:00 PM
   Ciprofloxacin - [**2187-11-29**] 06:23 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-29**] 02:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-30**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.1
   HR: 107 (96 - 111) bpm
   BP: 137/79(97) {114/51(70) - 137/79(97)} mmHg
   RR: 24 (21 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 120.5 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 12 (9 - 12)mmHg
   Total In:
                                                                  4,393 mL
                                                                    734 mL
   PO:
   TF:
                                                                  1,447 mL
                                                                    405 mL
   IVF:
                                                                  2,716 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    430 mL
   Urine:
                                                                  2,260 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,133 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 42.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.30/43/86.[**Numeric Identifier 143**]/20/-4
   Ve: 11 L/min
   PaO2 / FiO2: 174
   Physical Examination
   GENERAL:, Intubated, sedated, not responding to commands, cooling
   blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Tongue laceration/pressure ulcer.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated mostly clear breath sounds on bilaterally) some
   rhonchi on the posterior lung fields.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ pitting edema in her UE bilaterally, 1+ pitting edema
   in her LE bilaterally 2+ dorsalis pedis/ posterior tibial pulses.
   SKIN: New erythematous macular popular rash diffuse flanks upper and
   lower extremities, flanks, and axilla bilaterally.
   Labs / Radiology
   516 K/uL
   8.2 g/dL
   167 mg/dL
   1.9 mg/dL
   20 mEq/L
   5.6 mEq/L
   74 mg/dL
   109 mEq/L
   141 mEq/L
   25.9 %
   16.7 K/uL
        [image002.jpg]
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
                            [**2187-11-28**]  11:21 AM
                            [**2187-11-28**]  02:32 PM
                            [**2187-11-28**]  10:30 PM
                            [**2187-11-29**]  01:17 AM
                            [**2187-11-29**]  03:21 AM
                            [**2187-11-29**]  03:39 AM
                            [**2187-11-29**]  06:21 PM
                            [**2187-11-30**]  04:06 AM
   WBC
   22.5
   20.4
   18.6
   18.0
   16.7
   Hct
   24.1
   24.7
   26.1
   26.3
   25.9
   Plt
   [**Telephone/Fax (3) 11437**]03
   516
   Cr
   1.9
   2.1
   2.0
   2.2
   1.9
   TCO2
   21
   22
   23
   23
   22
   Glucose
   119
   93
   146
   128
   167
   Other labs: PT / PTT / INR:14.2/32.8/1.2, CK / CKMB / Troponin-T:41//,
   ALT / AST:39/108, Alk Phos / T Bili:382/0.6, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.9
   g/dL, LDH:389 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 current settings 470/24/16/50% - PaO2 89
 goal of greater than 65
   -- Repeat ABG and if the PaO2 allows, decrease FiO2 to 40% and maintain
   PEEP of 16 and f/u abg 1.5 hours after change to determine where we are
   -- Acid Base status
 metabolic acidosis Gap of 12
 based on albumin
   her gap should be [**5-23**].  Likely secondary to uremia
 will follow ABG
   and BUN trend
   #. Pneumonia / leukocytosis and fevers
 Questionable H1N1 Influenza
   confirmed by DFA at OSH. Patient likely has bacterial superinfection on
   top of primary influenza pneumonia also with concern for VAP.  Now
   presenting with a diffuse maculopapular rash on the flanks, axilla, and
   upper and lower extremities
 given this new finding it is likely that
   a drug rash is a component to the fevers and rash. Other possible
   etiologies include bacteremia, UTI, and line infection.  CT negative
   for effusion or fluid collection in the abdomen
 Fevers are
   improving, leukocytosis is trending down
   -- Continue Tamiflu 75mg [**Hospital1 **] until afebrile for 48 hours
 based on
   clinical suspicion for flu
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Reculture blood and urine
   -- Hold Vancomycin due to a trough of 24.4
   -- Discuss treatment options, plan, and antibiotic regimen/course with
   ID in the setting of this likely drug rash and fever
   -- Tylenol PRN for fever
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy
   now with potential pre-renal component - BUN/Creatinine ratio improving
   slightly today.
   -- Uine lytes came back pre-renal - Na 0.6%
   -- trend Cr
   -- avoid nephrotoxins
   -- renally dose meds
   -- Fluid balance goal of even to 500 to 1000 ml negative
 restart
   lasix drip
   # Increased LFTs
   - Continue to trend
 no intervention at this time
   - Add LFTs to AM labs
   #. Anemia
 unknown etiology
 will continue to monitor
 positive 14
   liters over her stay
 HCT improved today
 No blood given due to
   fevers - stabilized
   -- Check Q24 crit to continue to trend
   -- Active T+S
   -- HCT transfusion goal of 24
 currently at 26.2 and stable
   .
   .
   #. DM
   -- Continue covering with SSI and increase glargine to 10
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue to Hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds (no renal adjustment
   necessary)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 30 mL/hour
 follow-up
   nutrition
   Glycemic Control:  SSI and glargine 10
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter and family
   Code status: Full code
   Disposition: ICU
   11:07
   ------ Protected Section ------
   Agree w/ excellent MS IV note above. Rash likely drug rxn to cefepime.
   Will re-start lasix ggt for goal TBB -0.5-1 L
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 11211**], MD
   on:[**2187-11-30**] 11:12 ------

2187-11-30 10:55:00 Physician Attending Progress Note
Chief Complaint: multilobar pneumonia, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.3
F - [**2187-11-29**] 09:00 PM
   New rash
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-29**] 09:30 AM
   Cefipime - [**2187-11-29**] 04:00 PM
   Ciprofloxacin - [**2187-11-29**] 06:23 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-30**] 06:00 AM
   Insulin - Regular - [**2187-11-30**] 08:54 AM
   Dextrose 50% - [**2187-11-30**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-30**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.9
C (100.3
   HR: 108 (96 - 109) bpm
   BP: 138/66(88) {116/51(70) - 140/79(97)} mmHg
   RR: 23 (18 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 117.3 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 11 (11 - 14)mmHg
   Total In:
                                                                  3,510 mL
                                                                  1,518 mL
   PO:
   TF:
                                                                  1,447 mL
                                                                    593 mL
   IVF:
                                                                  1,834 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    970 mL
   Urine:
                                                                  2,260 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,250 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   Compliance: 58.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.30/43/86/20/-4
   Ve: 10.7 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, 1-2 mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : anterolaterally)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash: macular papular rash over upper torso, bilateral
   anterior calves
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   516 K/uL
   167 mg/dL
   1.9 mg/dL
   20 mEq/L
   5.6 mEq/L
   74 mg/dL
   109 mEq/L
   141 mEq/L
   25.9 %
   16.7 K/uL
        [image002.jpg]
                            [**2187-11-28**]  05:29 AM
                            [**2187-11-28**]  05:44 AM
                            [**2187-11-28**]  11:21 AM
                            [**2187-11-28**]  02:32 PM
                            [**2187-11-28**]  10:30 PM
                            [**2187-11-29**]  01:17 AM
                            [**2187-11-29**]  03:21 AM
                            [**2187-11-29**]  03:39 AM
                            [**2187-11-29**]  06:21 PM
                            [**2187-11-30**]  04:06 AM
   WBC
   22.5
   20.4
   18.6
   18.0
   16.7
   Hct
   24.1
   24.7
   26.1
   26.3
   25.9
   Plt
   [**Telephone/Fax (3) 11437**]03
   516
   Cr
   1.9
   2.1
   2.0
   2.2
   1.9
   TCO2
   21
   22
   23
   23
   22
   Glucose
   119
   93
   146
   128
   167
   Other labs: PT / PTT / INR:14.2/32.8/1.2, CK / CKMB / Troponin-T:41//,
   ALT / AST:39/108, Alk Phos / T Bili:382/0.6, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.9
   g/dL, LDH:389 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY/DIFFUSE RASH
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Now with
   diffuse rash, likely drug fever in this context.  Cefipime most likely
   culprit.  Will discuss changes in antibiotics regimen with ID service.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
 DIABETES MELLITUS (DM), TYPE II:  Increase lantus given persistent
   hyperglycemia, consider insulin drip if this continues to be difficult
   to control.
 HYPERKALEMIA:  Insulin/glucose given.  Repeat pending.  No worriesome
   ECG changes.  Will touch base with nutrition to be sure we aren't
   giving her K there.
 ALTERATION IN NUTRITION: Tube feeds at goal.
 ACUTE RENAL FAILURE:  Secondary to contrast dye, some component of
   prerenal state in setting of more aggressive diuresis.  Improved with
   holding further diruresis yesterday ableit also required increased Fi02
   and PEEP on the vent. Would benefit from gentle diuresis from a
   respiratory standpoint so will restart lasix for a goal of [**Telephone/Fax (1) 2673**]
   cc negative over the day.  Dosing vanco and other meds accordingly.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Mutlilobar PNA in setting
   of probable influenza and superimposed bacterial pneumonia.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-11-30**] 09:16 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-12-01 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2187-11-30**] 11:15 AM
   a-line
 URINE CULTURE - At [**2187-11-30**] 11:15 AM
 SPUTUM CULTURE - At [**2187-11-30**] 11:40 AM
 STOOL CULTURE - At [**2187-11-30**] 02:46 PM
 FEVER - 101.9
F - [**2187-11-30**] 05:00 PM
   Sputum, Urine Cx, C. diff
   Per IF, Cefepime was d/c'd and the pt. was started on Meropenem
   Getting Lasix gtt for -500 goal
   Insulin drip started
   Changed to AC 470/24/16/45%
   6 pm ABG: 7.29/51/77/26/-2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-29**] 09:30 AM
   Cefipime - [**2187-11-29**] 04:00 PM
   Meropenem - [**2187-11-30**] 03:42 PM
   Ciprofloxacin - [**2187-11-30**] 05:24 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Insulin - Regular - [**2187-11-30**] 08:54 AM
   Dextrose 50% - [**2187-11-30**] 08:55 AM
   Fentanyl - [**2187-11-30**] 05:26 PM
   Midazolam (Versed) - [**2187-11-30**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2187-11-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-1**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.8
C (100
   HR: 99 (97 - 112) bpm
   BP: 129/61(83) {122/54(74) - 143/78(99)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.3 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 14 (11 - 14)mmHg
   Total In:
                                                                  2,647 mL
                                                                    236 mL
   PO:
   TF:
                                                                    998 mL
                                                                     58 mL
   IVF:
                                                                  1,319 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                  1,170 mL
   Urine:
                                                                  2,885 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -238 mL
                                                                   -934 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 27 cmH2O
   Compliance: 47 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/46/91/23/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   GENERAL:, Intubated, sedated, not responding to commands, cooling
   blanket on
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Tongue laceration/pressure ulcer.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated mostly clear breath sounds on bilaterally) some
   rhonchi on the posterior lung fields.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ pitting edema in her UE bilaterally, 1+ pitting edema
   in her LE bilaterally 2+ dorsalis pedis/ posterior tibial pulses.
   SKIN: New erythematous macular popular rash diffuse flanks upper and
   lower extremities, flanks, and axilla bilaterally.
   Labs / Radiology
   708 K/uL
   8.0 g/dL
   109 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   74 mg/dL
   113 mEq/L
   146 mEq/L
   25.8 %
   15.3 K/uL
        [image002.jpg]
                            [**2187-11-28**]  10:30 PM
                            [**2187-11-29**]  01:17 AM
                            [**2187-11-29**]  03:21 AM
                            [**2187-11-29**]  03:39 AM
                            [**2187-11-29**]  06:21 PM
                            [**2187-11-30**]  04:06 AM
                            [**2187-11-30**]  11:28 AM
                            [**2187-11-30**]  06:00 PM
                            [**2187-12-1**]  04:13 AM
                            [**2187-12-1**]  04:30 AM
   WBC
   18.6
   18.0
   16.7
   15.3
   Hct
   26.1
   26.3
   25.9
   25.8
   Plt
   372
   403
   516
   708
   Cr
   2.0
   2.2
   1.9
   1.6
   TCO2
   23
   23
   22
   25
   26
   26
   Glucose
   146
   128
   167
   109
   Other labs: PT / PTT / INR:14.6/29.2/1.3, CK / CKMB / Troponin-T:41//,
   ALT / AST:80/172, Alk Phos / T Bili:392/0.4, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:384 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   # Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 current settings 470/24/16/50% - PaO2 89
 goal of greater than 65
   -- Repeat ABG and if the PaO2 allows, decrease FiO2 to 40% and maintain
   PEEP of 16 and f/u abg 1.5 hours after change to determine where we are
   -- Acid Base status
 metabolic acidosis Gap of 12
 based on albumin
   her gap should be [**5-23**].  Likely secondary to uremia
 will follow ABG
   and BUN trend
   #. Pneumonia / leukocytosis and fevers
 Questionable H1N1 Influenza
   confirmed by DFA at OSH. Patient likely has bacterial superinfection on
   top of primary influenza pneumonia also with concern for VAP.  Now
   presenting with a diffuse maculopapular rash on the flanks, axilla, and
   upper and lower extremities
 given this new finding it is likely that
   a drug rash is a component to the fevers and rash. Other possible
   etiologies include bacteremia, UTI, and line infection.  CT negative
   for effusion or fluid collection in the abdomen
 Fevers are
   improving, leukocytosis is trending down
   -- Continue Tamiflu 75mg [**Hospital1 **] until afebrile for 48 hours
 based on
   clinical suspicion for flu
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Reculture blood and urine
   -- Hold Vancomycin due to a trough of 24.4
   -- Discuss treatment options, plan, and antibiotic regimen/course with
   ID in the setting of this likely drug rash and fever
   -- Tylenol PRN for fever
   # Acute renal failure
 Non-oliguric. Likely [**2-19**] contrast nephropathy
   now with potential pre-renal component - BUN/Creatinine ratio improving
   slightly today.
   -- Uine lytes came back pre-renal - Na 0.6%
   -- trend Cr
   -- avoid nephrotoxins
   -- renally dose meds
   -- Fluid balance goal of even to 500 to 1000 ml negative
 restart
   lasix drip
   # Increased LFTs
   - Continue to trend
 no intervention at this time
   - Add LFTs to AM labs
   #. Anemia
 unknown etiology
 will continue to monitor
 positive 14
   liters over her stay
 HCT improved today
 No blood given due to
   fevers - stabilized
   -- Check Q24 crit to continue to trend
   -- Active T+S
   -- HCT transfusion goal of 24
 currently at 26.2 and stable
   .
   .
   #. DM
   -- Continue covering with SSI and increase glargine to 10
   -- FSG qid, DM diet, HISS
   .
   #. HL
   -- Continue to Hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds (no renal adjustment
   necessary)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 30 mL/hour
 follow-up
   nutrition
   Glycemic Control:  SSI and glargine 10
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-01 11:04:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2187-11-30**] 11:15 AM
   a-line
 URINE CULTURE - At [**2187-11-30**] 11:15 AM
 SPUTUM CULTURE - At [**2187-11-30**] 11:40 AM
 STOOL CULTURE - At [**2187-11-30**] 02:46 PM
 FEVER - 101.9
F - [**2187-11-30**] 05:00 PM
   Lasix drip restarted
   Insulin drip started
   Fi02 decreased to 40%, PEEP decreased to 14
   Patient unable to provide history: Sedated, intubatted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-29**] 09:30 AM
   Cefipime - [**2187-11-29**] 04:00 PM
   Meropenem - [**2187-11-30**] 03:42 PM
   Ciprofloxacin - [**2187-11-30**] 05:24 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-11-30**] 05:26 PM
   Fentanyl - [**2187-11-30**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2187-11-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-1**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.8
   HR: 105 (97 - 112) bpm
   BP: 144/68(92) {122/54(74) - 144/78(99)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 117.3 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 12 (12 - 14)mmHg
   Total In:
                                                                  2,647 mL
                                                                    707 mL
   PO:
   TF:
                                                                    998 mL
                                                                    322 mL
   IVF:
                                                                  1,319 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                  2,030 mL
   Urine:
                                                                  2,885 mL
                                                                  2,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -238 mL
                                                                 -1,323 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.35/46/91/23/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: improved
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, intubated
   Labs / Radiology
   8.0 g/dL
   708 K/uL
   109 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   74 mg/dL
   113 mEq/L
   146 mEq/L
   25.8 %
   15.3 K/uL
        [image002.jpg]
                            [**2187-11-28**]  10:30 PM
                            [**2187-11-29**]  01:17 AM
                            [**2187-11-29**]  03:21 AM
                            [**2187-11-29**]  03:39 AM
                            [**2187-11-29**]  06:21 PM
                            [**2187-11-30**]  04:06 AM
                            [**2187-11-30**]  11:28 AM
                            [**2187-11-30**]  06:00 PM
                            [**2187-12-1**]  04:13 AM
                            [**2187-12-1**]  04:30 AM
   WBC
   18.6
   18.0
   16.7
   15.3
   Hct
   26.1
   26.3
   25.9
   25.8
   Plt
   372
   403
   516
   708
   Cr
   2.0
   2.2
   1.9
   1.6
   TCO2
   23
   23
   22
   25
   26
   26
   Glucose
   146
   128
   167
   109
   Other labs: PT / PTT / INR:14.6/29.2/1.3, CK / CKMB / Troponin-T:41//,
   ALT / AST:80/172, Alk Phos / T Bili:392/0.4, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:384 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR:  NGT in esophagus, no change in lung fields, ETT high
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Secondary to
   contrast dye load.  Cr improving even with continued diuresis and
   negative fluid balance.
 IMPAIRED SKIN INTEGRITY:  Tongue ulcer improving.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN);  Now off
   cefipime given rash. Rash improved.  Fever curve trending down.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Decreasing ventilatory support as guided by ABGs.   Advance ETT, repeat
   CXR.
  DIABETES MELLITUS (DM), TYPE II:  Sugars were still not adequately
   controlled so she was initiated on an insulin drip.
 ALTERATION IN NUTRITION:  Need to replace NGT, hold tube feeds
   pending xray to confirm placement.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): Secondary to multilobar
   pneumonia, probable influenza with superimposed bacterial process.  WBC
   continues to decrease.  Will benefit from further diuresis.  Goal to
   keep her 1.5 to 2L negative over the course of the day.  Replete
   electrolytes as needed.  Stop the
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-1**] 01:48 AM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   20 Gauge - [**2187-12-1**] 09:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-12-02 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2187-12-1**] 04:00 PM
   -weaned FIO2 to 40%
   -d/c'ed Tamiflu and vancomycin
   -NG tube looked like it was in esophagus, so advanced --> now it is in
   duodenum
   -Na 148 --> ordered free water flushes to replete free water deficit
   -continuing to diurese
   Allergies:
   Cefepime--Rash
   Last dose of Antibiotics:
   Cefipime - [**2187-11-29**] 04:00 PM
   Ciprofloxacin - [**2187-11-30**] 05:24 PM
   Vancomycin - [**2187-12-1**] 09:00 AM
   Meropenem - [**2187-12-2**] 01:25 AM
   Infusions:
   Insulin - Regular - 3.5 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 4.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-12-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.9
C (98.4
   HR: 96 (94 - 106) bpm
   BP: 127/63(85) {119/63(85) - 162/86(111)} mmHg
   RR: 24 (21 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.3 kg (admission): 110 kg
   Height: 64 Inch
    CVP: 22 (12 - 22)mmHg
   Total In:
                                                                  2,701 mL
                                                                  1,496 mL
   PO:
   TF:
                                                                    916 mL
                                                                    228 mL
   IVF:
                                                                  1,285 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  3,925 mL
                                                                  1,620 mL
   Urine:
                                                                  3,925 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,224 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 37 cmH2O
   Compliance: 20.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/40/63/24/2
   Ve: 10.5 L/min
   PaO2 / FiO2: 126
   Physical Examination
   GENERAL, Intubated, sedated, cooling blanket on
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 2+ pitting edema in bilateral lower extremities, right
   possibly slightly greater than left.
   SKIN: Marked improvement of macular rash, with residual rash on
   bilateral shins only.
   Labs / Radiology
   867 K/uL
   8.7 g/dL
   121 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   72 mg/dL
   112 mEq/L
   146 mEq/L
   26.7 %
   16.8 K/uL
        [image002.jpg]
                            [**2187-11-29**]  06:21 PM
                            [**2187-11-30**]  04:06 AM
                            [**2187-11-30**]  11:28 AM
                            [**2187-11-30**]  06:00 PM
                            [**2187-12-1**]  04:13 AM
                            [**2187-12-1**]  04:30 AM
                            [**2187-12-1**]  11:00 AM
                            [**2187-12-1**]  05:21 PM
                            [**2187-12-2**]  04:42 AM
                            [**2187-12-2**]  05:10 AM
   WBC
   16.7
   15.3
   16.8
   Hct
   25.9
   25.8
   26.7
   Plt
   [**Telephone/Fax (3) 11528**]
   Cr
   1.9
   1.6
   1.6
   1.3
   TCO2
   22
   25
   26
   26
   28
   28
   Glucose
   167
   109
   153
   121
   Other labs: PT / PTT / INR:14.7/27.0/1.3, CK / CKMB / Troponin-T:41//,
   ALT / AST:132/257, Alk Phos / T Bili:401/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:384 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   1. Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 currently back on 50% FiO2.
   -- Acid Base status
 metabolic acidosis Gap of 10
 will likely
   improve with diruesis
   -- re-site A-line
   -- ct wean sedation as tolerated
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 Influenza
   confirmed by DFA at OSH. Protracted clinical course may be [**2-19**] to
   bacterial superinfection or even VAP. CT negative for effusion or fluid
   collection in the abdomen
 Fevers are improving, leukocytosis is
   trending down
   -- d/c Tamiflu and vancomycin as patient has already had sufficient
   course
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Follow pending culture
   -- Appreciate ID recs
   -- Tylenol PRN for fever
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at 1.3 now
   -- trend Cr
   -- avoid nephrotoxins
   -- appropriately dose antibiotics
   -- Fluid balance goal of negative 1.5 L today.
   -- Lasix gtt at 10ml/h
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  We will check
   for infectious causes of liver dysfunction.
   -- Continue to trend
   -- check hepatitis seriologies
   -- review meds to assess for potential hepatotoxins
   #. Anemia
 Hct stable
   -- Check Q24 Hct to continue to trend
   -- Active T+S
   .
   #. DM
   -- Continue on insulin drip
   -- f/u nutrition recs
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds (no renal adjustment
   necessary)
   ICU Care
   Nutrition.
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 30 mL/hour
 follow-up
   nutrition
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-02 11:54:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.0
F - [**2187-12-1**] 04:00 PM
   Increased Fi02 40 to 50% given low P02
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2187-11-29**] 04:00 PM
   Ciprofloxacin - [**2187-11-30**] 05:24 PM
   Vancomycin - [**2187-12-1**] 09:00 AM
   Meropenem - [**2187-12-2**] 08:54 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Furosemide (Lasix) - 10 mg/hour
   Midazolam (Versed) - 4.5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-12-2**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-2**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.3
C (99.2
   HR: 98 (94 - 109) bpm
   BP: 140/72(95) {118/63(85) - 162/86(111)} mmHg
   RR: 24 (21 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 110 kg
   Height: 64 Inch
   CVP: 22 (22 - 22)mmHg
   Total In:
                                                                  2,701 mL
                                                                  2,607 mL
   PO:
   TF:
                                                                    916 mL
                                                                    346 mL
   IVF:
                                                                  1,285 mL
                                                                  1,262 mL
   Blood products:
   Total out:
                                                                  3,925 mL
                                                                  2,720 mL
   Urine:
                                                                  3,925 mL
                                                                  2,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,224 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 33.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/40/63/24/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered), good air
   movement bilaterally
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, opens eyes to command
   Labs / Radiology
   8.7 g/dL
   867 K/uL
   121 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   72 mg/dL
   112 mEq/L
   146 mEq/L
   26.7 %
   16.8 K/uL
        [image002.jpg]
                            [**2187-11-29**]  06:21 PM
                            [**2187-11-30**]  04:06 AM
                            [**2187-11-30**]  11:28 AM
                            [**2187-11-30**]  06:00 PM
                            [**2187-12-1**]  04:13 AM
                            [**2187-12-1**]  04:30 AM
                            [**2187-12-1**]  11:00 AM
                            [**2187-12-1**]  05:21 PM
                            [**2187-12-2**]  04:42 AM
                            [**2187-12-2**]  05:10 AM
   WBC
   16.7
   15.3
   16.8
   Hct
   25.9
   25.8
   26.7
   Plt
   [**Telephone/Fax (3) 11528**]
   Cr
   1.9
   1.6
   1.6
   1.3
   TCO2
   22
   25
   26
   26
   28
   28
   Glucose
   167
   109
   153
   121
   Other labs: PT / PTT / INR:14.7/27.0/1.3, CK / CKMB / Troponin-T:41//,
   ALT / AST:132/257, Alk Phos / T Bili:401/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:85.3 %, Band:10.0 %, Lymph:8.7 %, Mono:3.4 %,
   Eos:2.4 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:384 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary to dye
   load. Cr continues to improve in setting of diuresis on lasix drip.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA):  Stable.
 HYPERNATREMIA:  Getting free water replacement.  Trending down.
   Check serial lytes.
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Still
   may be drug fever albeit WBC creeping up today. Panculture.  Minimal
   secretions via ETT, send sputum for GS, C & S. N o change in abx at
   this time.  Resite aline.  Will resite central line if persistently
   febrile and WBC continues to increase.
 DIABETES MELLITUS (DM), TYPE II:  Continues on insulin drip.
 ALTERATION IN NUTRITION:  Tube feeds.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Multilobar pneumonia with
   probable flu and superimposed bacterial pneumonia.  Continue
   meropenim/cipro.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Continues to require 14 PEEP, 50% Fi02. Weaning sedation 25% per day.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-2**] 04:35 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   20 Gauge - [**2187-12-1**] 09:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2187-12-03 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   URINE CULTURE - At [**2187-12-2**] 04:45 PM
 growing yeast
   Vent Settings: AC 470/24/14/40%
 ABG:  7.46/44/70
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-11-30**] 05:24 PM
   Vancomycin - [**2187-12-1**] 09:00 AM
   Meropenem - [**2187-12-2**] 08:13 PM
   Infusions:
   Midazolam (Versed) - 4.5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-12-2**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 85 (85 - 114) bpm
   BP: 103/53(69) {103/53(69) - 179/89(119)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  5,191 mL
                                                                  1,899 mL
   PO:
             TF:
                                                                    667 mL
                                                                    225 mL
   IVF:
                                                                  2,523 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  6,130 mL
                                                                  2,350 mL
   Urine:
                                                                  6,130 mL
                                                                  2,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -939 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 36 cmH2O
   Compliance: 22.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.46/44/70/28/6
   Ve: 10.5 L/min
   PaO2 / FiO2: 175
   Physical Examination
   GENERAL, Intubated, sedated, cooling blanket on
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally, some rhonchi in the
   anterior fields.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 2+ pitting edema in bilateral lower extremities, right
   possibly slightly greater than left.
   SKIN: Marked improvement of macular rash.
   Labs / Radiology
   1033 K/uL
   9.1 g/dL
   100 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.5 mEq/L
   59 mg/dL
   105 mEq/L
   142 mEq/L
   28.4 %
   15.7 K/uL
        [image002.jpg]
                            [**2187-12-1**]  04:30 AM
                            [**2187-12-1**]  11:00 AM
                            [**2187-12-1**]  05:21 PM
                            [**2187-12-2**]  04:42 AM
                            [**2187-12-2**]  05:10 AM
                            [**2187-12-2**]  03:30 PM
                            [**2187-12-2**]  03:38 PM
                            [**2187-12-2**]  08:54 PM
                            [**2187-12-3**]  04:05 AM
                            [**2187-12-3**]  04:16 AM
   WBC
   16.8
   15.7
   Hct
   26.7
   28.4
   Plt
   [**Telephone/Fax (1) 11548**]
   Cr
   1.6
   1.3
   1.3
   1.2
   TCO2
   26
   28
   28
   30
   29
   32
   Glucose
   153
   121
   175
   100
   Other labs: PT / PTT / INR:14.6/31.2/1.3, CK / CKMB / Troponin-T:41//,
   ALT / AST:151/219, Alk Phos / T Bili:348/0.4, Amylase / Lipase:22/22,
   Differential-Neuts:73.8 %, Band:10.0 %, Lymph:16.6 %, Mono:5.5 %,
   Eos:3.6 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:376 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
 complicated by
   respiratory failure and ARDS
   1. Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 currently on 40% FiO2
 continue to wean FiO2 and PEEP as tolerated.
   -- Acid Base status
 metabolic alkalosis Gap of 9
 will likely
   improve with diruesis
   -- resite A-line
 unable to resite the line yesterday
   -- ct wean sedation as tolerated
 Patient more alert today
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 Influenza.
   Protracted clinical course may be [**2-19**] to bacterial superinfection, VAP,
   with a component of drug fever. CT negative for effusion or fluid
   collection in the abdomen
 Fevers are improving, leukocytosis is
   trending down
 Chest X-Ray improving
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Appreciate ID recs
   -- Tylenol PRN for fever
   -- Continue Cipro and Meropenem
   -- Lines may be another source
 resite a-line
   -- D/C left triple lumen IJ
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at 1.2 now
   -- trend Cr
   -- avoid nephrotoxins
   -- appropriately dose antibiotics
   -- Fluid balance goal of negative 1.5 L today.
   -- Lasix gtt at 10ml/h
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  We will check
   for infectious causes of liver dysfunction.
   -- Continue to trend
   -- F/U hepatitis seriologies
   -- Assess for potential hepatotoxins
   #. Anemia
 Hct stable
   -- Check Q24 Hct to continue to trend
   -- Active T+S
   .
   #. DM
   -- Continue on insulin drip
   -- f/u nutrition recs
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds (no renal adjustment
   necessary)
   ICU Care
   Nutrition.
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 30 mL/hour
 follow-up
   nutrition
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter and family
   Code status: Full code
   Disposition: ICU
   12:10
   ------ Protected Section ------
   Agree w/ excellent MS IV note above.  Will continue with ARDSnet
   ventilation and attempt to wean FiO2, PEEP, sedation as tolerated.
   Will re-site arterial line today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3169**] [**Last Name (NamePattern1) **], MD
   on:[**2187-12-3**] 18:35 ------

2187-12-03 11:31:00 Physician Attending Progress Note
Chief Complaint: Multilobar pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2187-12-2**] 04:45 PM
   Fi02 decreased from 50 to 40%
   Mobilizing white secretions
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-11-30**] 05:24 PM
   Vancomycin - [**2187-12-1**] 09:00 AM
   Meropenem - [**2187-12-2**] 08:13 PM
   Infusions:
   Midazolam (Versed) - 4.5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-3**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.7
   HR: 87 (85 - 114) bpm
   BP: 100/49(65) {100/49(65) - 179/89(119)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  5,191 mL
                                                                  2,753 mL
   PO:
             TF:
                                                                    667 mL
                                                                    336 mL
   IVF:
                                                                  2,523 mL
                                                                  1,058 mL
   Blood products:
   Total out:
                                                                  6,130 mL
                                                                  2,970 mL
   Urine:
                                                                  6,130 mL
                                                                  2,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -939 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.49/40/85/28/6
   Ve: 10.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: improved
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, opens eyes
   Labs / Radiology
   9.1 g/dL
   1033 K/uL
   100 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.5 mEq/L
   59 mg/dL
   105 mEq/L
   142 mEq/L
   28.4 %
   15.7 K/uL
        [image002.jpg]
                            [**2187-12-1**]  11:00 AM
                            [**2187-12-1**]  05:21 PM
                            [**2187-12-2**]  04:42 AM
                            [**2187-12-2**]  05:10 AM
                            [**2187-12-2**]  03:30 PM
                            [**2187-12-2**]  03:38 PM
                            [**2187-12-2**]  08:54 PM
                            [**2187-12-3**]  04:05 AM
                            [**2187-12-3**]  04:16 AM
                            [**2187-12-3**]  10:34 AM
   WBC
   16.8
   15.7
   Hct
   26.7
   28.4
   Plt
   [**Telephone/Fax (1) 11548**]
   Cr
   1.6
   1.3
   1.3
   1.2
   TCO2
   28
   28
   30
   29
   32
   31
   Glucose
   153
   121
   175
   100
   Other labs: PT / PTT / INR:14.6/31.2/1.3, CK / CKMB / Troponin-T:41//,
   ALT / AST:151/219, Alk Phos / T Bili:348/0.4, Amylase / Lipase:22/22,
   Differential-Neuts:73.8 %, Band:10.0 %, Lymph:16.6 %, Mono:5.5 %,
   Eos:3.6 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:376 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  ETT in good position, slight clearing of
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr continues to
   improve, responding to lasix drip.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA):  Resolved.
 RASH:  Improved.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN): Trending
   down.  WBC remains elevated, stable.  Plan to d/c central line, culture
   tip.  Resite a-line.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Slight improvement.  More awake, try to switch to PSV.
 DIABETES MELLITUS (DM), TYPE II:  Sugars better controlled on insulin
   drip.
 ALTERATION IN NUTRITION:  Tube feeds.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to multilobar
   pneumonia with presumed influenza and superimposed bacterial process.
   No new culture data, budding yeast likely colinization.
 TRANSAMINITIS:  Continue elevated.  Review meds and discontinue any
   that may be contributing.  RUQ ultrasound.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-2**] 11:02 PM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   20 Gauge - [**2187-12-3**] 07:48 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2187-12-04 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2187-12-3**] 01:12 PM
 ARTERIAL LINE - START [**2187-12-3**] 08:36 PM
 ARTERIAL LINE - STOP [**2187-12-3**] 09:00 PM
   -A. line was re-sited
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2187-12-1**] 09:00 AM
   Meropenem - [**2187-12-3**] 08:00 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 4.5 mg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-4**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 99 (85 - 106) bpm
   BP: 119/63(82) {92/48(64) - 154/89(115)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  4,333 mL
                                                                    629 mL
   PO:
             TF:
                                                                    720 mL
                                                                    222 mL
   IVF:
                                                                  1,503 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  5,660 mL
                                                                  1,970 mL
   Urine:
                                                                  5,660 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,327 mL
                                                                 -1,341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 42 cmH2O
   Plateau: 36 cmH2O
   Compliance: 22.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.49/46/94.[**Numeric Identifier 126**]/30/10
   Ve: 10.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   GENERAL, Intubated, sedated, cooling blanket on
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   Neck: LIJ in place.
   CARDIAC: tachycardia with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally, some rhonchi in the
   anterior fields.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 2+ pitting edema in bilateral lower extremities, right
   possibly slightly greater than left.
   SKIN: Marked improvement of macular rash.
   Labs / Radiology
   943 K/uL
   8.7 g/dL
   86 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   52 mg/dL
   104 mEq/L
   143 mEq/L
   27.4 %
   13.6 K/uL
        [image002.jpg]
                            [**2187-12-2**]  03:30 PM
                            [**2187-12-2**]  03:38 PM
                            [**2187-12-2**]  08:54 PM
                            [**2187-12-3**]  04:05 AM
                            [**2187-12-3**]  04:16 AM
                            [**2187-12-3**]  10:34 AM
                            [**2187-12-3**]  04:49 PM
                            [**2187-12-3**]  05:14 PM
                            [**2187-12-4**]  03:55 AM
                            [**2187-12-4**]  04:09 AM
   WBC
   15.7
   13.6
   Hct
   28.4
   27.4
   Plt
   1033
   943
   Cr
   1.3
   1.2
   1.0
   0.9
   TCO2
   30
   29
   32
   31
   33
   36
   Glucose
   175
   100
   140
   86
   Other labs: PT / PTT / INR:14.4/29.3/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:118/131, Alk Phos / T Bili:297/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:74.7 %, Band:10.0 %, Lymph:15.3 %, Mono:5.1 %,
   Eos:4.5 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.9
   g/dL, LDH:285 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
 complicated by
   respiratory failure and ARDS
   1. Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 currently on 40% FiO2
 continue to wean FiO2 and PEEP as tolerated.
   -- Acid Base status
 metabolic alkalosis Gap of 9
 will likely
   improve with diruesis
   -- resite A-line
 unable to resite the line yesterday
   -- ct wean sedation as tolerated
 Patient more alert today
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 Influenza.
   Protracted clinical course may be [**2-19**] to bacterial superinfection, VAP,
   with a component of drug fever. CT negative for effusion or fluid
   collection in the abdomen
 Fevers are improving, leukocytosis is
   trending down
 Chest X-Ray improving
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Appreciate ID recs
   -- Tylenol PRN for fever
   -- Continue Cipro and Meropenem
   -- Lines may be another source
 resite a-line
   -- D/C left triple lumen IJ
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at 1.2 now
   -- trend Cr
   -- avoid nephrotoxins
   -- appropriately dose antibiotics
   -- Fluid balance goal of negative 1.5 L today.
   -- Lasix gtt at 10ml/h
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  We will check
   for infectious causes of liver dysfunction.
   -- Continue to trend
   -- F/U hepatitis seriologies
   -- Assess for potential hepatotoxins
   #. Anemia
 Hct stable
   -- Check Q24 Hct to continue to trend
   -- Active T+S
   .
   #. DM
   -- Continue on insulin drip
   -- f/u nutrition recs
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- prozac and amytriptyline are her home meds (no renal adjustment
   necessary)
   ICU Care
   Nutrition.
   Replete with Fiber (Full) - [**2187-11-29**] 03:40 AM 30 mL/hour
 follow-up
   nutrition
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2187-11-21**] 06:36 PM
   Arterial Line - [**2187-11-26**] 04:36 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-04 10:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2187-12-3**] 01:12 PM
 ARTERIAL LINE - START [**2187-12-3**] 08:36 PM
 ARTERIAL LINE - STOP [**2187-12-3**] 09:00 PM
   Transiently on PSV 12/14 PEEP/50% Fi02, dropped tidal volumes
   Hep A positive IgG
   RUQ US - fatty liver, CBD 8 mm
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2187-12-4**] 07:40 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-4**] 07:40 AM
   Fentanyl - [**2187-12-4**] 08:09 AM
   Midazolam (Versed) - [**2187-12-4**] 09:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-4**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 97 (88 - 106) bpm
   BP: 116/65(83) {92/56(75) - 154/89(115)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  4,333 mL
                                                                  1,145 mL
   PO:
             TF:
                                                                    720 mL
                                                                    317 mL
   IVF:
                                                                  1,503 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  5,660 mL
                                                                  2,930 mL
   Urine:
                                                                  5,660 mL
                                                                  2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,327 mL
                                                                 -1,785 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 40 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 91%
   ABG: 7.53/41/65/30/10
   Ve: 11.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependent, Diminished:
   bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: nearly resolved
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   943 K/uL
   86 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   52 mg/dL
   104 mEq/L
   143 mEq/L
   27.4 %
   13.6 K/uL
        [image002.jpg]
                            [**2187-12-2**]  03:38 PM
                            [**2187-12-2**]  08:54 PM
                            [**2187-12-3**]  04:05 AM
                            [**2187-12-3**]  04:16 AM
                            [**2187-12-3**]  10:34 AM
                            [**2187-12-3**]  04:49 PM
                            [**2187-12-3**]  05:14 PM
                            [**2187-12-4**]  03:55 AM
                            [**2187-12-4**]  04:09 AM
                            [**2187-12-4**]  09:54 AM
   WBC
   15.7
   13.6
   Hct
   28.4
   27.4
   Plt
   1033
   943
   Cr
   1.2
   1.0
   0.9
   TCO2
   30
   29
   32
   31
   33
   36
   35
   Glucose
   100
   140
   86
   Other labs: PT / PTT / INR:14.4/29.3/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:118/131, Alk Phos / T Bili:297/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:74.7 %, Band:10.0 %, Lymph:15.3 %, Mono:5.1 %,
   Eos:4.5 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:285 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  ETT in good position, slightly worse diffuse
   inflitrates, effusions which may be due to technique
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Secondary to dye
   load, resolved.  Plan for aggressive diuresis today 3 L negative.
   Follow anf replete electrolytes as needed
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA):  Resolved.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Trending
   down.  Central line out yesterday, a-line resited.  WBC trending down.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
 DIABETES MELLITUS (DM), TYPE II:  Insuline drip in setting of
   infection.
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to probable
   influencza and superimposed bacterial process.   STopping antibiotics
   today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-4**] 08:21 AM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-12-05 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PICC LINE - START [**2187-12-4**] 08:36 PM
   2.7 L negative over 24 hours
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2187-12-4**] 07:40 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 182.7 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2187-12-4**] 08:09 AM
   Midazolam (Versed) - [**2187-12-4**] 09:22 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-5**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-5**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 90 (81 - 104) bpm
   BP: 119/57(79) {88/41(61) - 135/71(92)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  2,084 mL
                                                                    437 mL
   PO:
             TF:
                                                                    723 mL
                                                                    226 mL
   IVF:
                                                                    732 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  4,785 mL
                                                                  1,180 mL
   Urine:
                                                                  4,085 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,701 mL
                                                                   -743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/47/86/34/8
   Ve: 6.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GENERAL, Intubated, opening eyes to voice
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally, some rhonchi in the
   anterior fields.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Labs / Radiology
   934 K/uL
   8.4 g/dL
   153 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   49 mg/dL
   102 mEq/L
   142 mEq/L
   25.7 %
   13.9 K/uL
        [image002.jpg]
                            [**2187-12-3**]  05:14 PM
                            [**2187-12-4**]  03:55 AM
                            [**2187-12-4**]  04:09 AM
                            [**2187-12-4**]  09:54 AM
                            [**2187-12-4**]  11:47 AM
                            [**2187-12-4**]  01:47 PM
                            [**2187-12-4**]  01:56 PM
                            [**2187-12-4**]  05:45 PM
                            [**2187-12-5**]  12:57 AM
                            [**2187-12-5**]  04:59 AM
   WBC
   13.6
   13.9
   Hct
   27.4
   25.8
   25.7
   Plt
   943
   934
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   TCO2
   36
   35
   35
   34
   35
   Glucose
   140
   86
   105
   151
   153
   Other labs: PT / PTT / INR:13.5/28.4/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:81/63, Alk Phos / T Bili:250/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:74.7 %, Band:10.0 %, Lymph:15.3 %, Mono:5.1 %,
   Eos:4.5 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:244 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   1. Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 currently back on 50% FiO2.
   -- Acid Base status
 metabolic alkalosis likely due to contraction
   from diuresis.  Will use acetazolamide to derease bicarb
   -- ct wean sedation as tolerated
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 at OSH.
   Protracted clinical course may be [**2-19**] to bacterial superinfection or
   even VAP, with a component of drug fever. CT negative for effusion or
   fluid collection in the abdomen
 Currently afebrile, leukocytosis is
   trending down
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Appreciate ID recs
   -- Tylenol PRN for fever
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at now 0.9
 contraction alkalosis
   -- trend Cr
   -- Start acetazolamide 250mg IV TID
   -- Fluid balance goal of negative 1 L today.
   -- D/C lasix drip and use lasix boluses if necessary to reach fluid
   balance goal
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  Repeat
   ultrasound negative.  Transaminases improving in the setting of DC
   antibiotics.
   -- Continue Ursadiol for one more day
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   -- f/u nutrition recs
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- Continue prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU
   12:21
   ------ Protected Section ------
   Agree w/ excellent MS IV note above. Renal and hepatic function appears
   to be improving. Plan to D/C lasix gtt today and start acetazolamide,
   carbonic anhydrase inhibitor to decrease HCO3. Goal TBB -0.5 L
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 11211**], MD
   on:[**2187-12-5**] 14:47 ------

2187-12-05 09:04:00 Physician Attending Progress Note
Chief Complaint: multilobar pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2187-12-4**] 08:36 PM
   Diuresed - over 3 L negative over past 24 hours
   Desaturations this morning in setting of lightening sedation and
   repositioning, suctioned for modest amount of thin white secretions,
   givven recruitment breaths with improvement in sats.
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2187-12-4**] 07:40 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Fentanyl (Concentrate) - 182.7 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-5**] 06:00 AM
   Lansoprazole (Prevacid) - [**2187-12-5**] 07:56 AM
   Midazolam (Versed) - [**2187-12-5**] 08:15 AM
   Fentanyl - [**2187-12-5**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-5**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 89 (81 - 102) bpm
   BP: 132/63(88) {88/41(61) - 135/71(92)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  2,084 mL
                                                                    606 mL
   PO:
             TF:
                                                                    723 mL
                                                                    262 mL
   IVF:
                                                                    732 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  4,785 mL
                                                                  1,360 mL
   Urine:
                                                                  4,085 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,701 mL
                                                                   -754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 58.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/47/86/34/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently, greater at
   left base), good breath sounds bilaterally anteriorly
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   934 K/uL
   153 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   49 mg/dL
   102 mEq/L
   142 mEq/L
   25.7 %
   13.9 K/uL
        [image002.jpg]
                            [**2187-12-3**]  05:14 PM
                            [**2187-12-4**]  03:55 AM
                            [**2187-12-4**]  04:09 AM
                            [**2187-12-4**]  09:54 AM
                            [**2187-12-4**]  11:47 AM
                            [**2187-12-4**]  01:47 PM
                            [**2187-12-4**]  01:56 PM
                            [**2187-12-4**]  05:45 PM
                            [**2187-12-5**]  12:57 AM
                            [**2187-12-5**]  04:59 AM
   WBC
   13.6
   13.9
   Hct
   27.4
   25.8
   25.7
   Plt
   943
   934
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   TCO2
   36
   35
   35
   34
   35
   Glucose
   140
   86
   105
   151
   153
   Other labs: PT / PTT / INR:13.5/28.4/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:81/63, Alk Phos / T Bili:250/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:74.7 %, Band:10.0 %, Lymph:15.3 %, Mono:5.1 %,
   Eos:4.5 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:244 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: negative Hep B serologies
   Imaging: CXR:  PICC line in good position since being pulled back.
   Stable infiltrates
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Secondary to dye
   load earlier in course, resolved.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Afebrile.
 DIABETES MELLITUS (DM), TYPE II:  Now off insulin drips, sugar well
   controlled, continue RISS.
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Multilobar pneumonia in
   setting of probable influenza and superimposed bacterial pneumonia. Now
   off antibiotics.  Secretions via ETT minimal.  Desaturation this
   morning in setting of lightening sedation and repositioning, possibly
   biting on tube and needed recruitment.  Has been aggessively diuresed
   with rising bicarb, metabolic alkalosis with respiratory compensation.
   Still fluid overloaded, will stop lasix drip and try diamox.  Less
   aggressive diuresis goal today. Check repeat albumin.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-12-06 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Lasix gtt d/c
   Acetazolamide started
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2187-12-4**] 07:40 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 182.7 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-12-5**] 07:56 AM
   Midazolam (Versed) - [**2187-12-5**] 08:15 AM
   Fentanyl - [**2187-12-5**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2187-12-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-6**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 92 (77 - 103) bpm
   BP: 114/60(79) {101/48(67) - 151/95(114)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,488 mL
                                                                    379 mL
   PO:
             TF:
                                                                    723 mL
                                                                    226 mL
   IVF:
                                                                    660 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                    845 mL
   Urine:
                                                                  2,935 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,447 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 34 cmH2O
   SpO2: 94%
   ABG: 7.42/48/116/30/6
   Ve: 7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GENERAL, Intubated, opening eyes to voice
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally, some rhonchi in the
   anterior fields.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   815 K/uL
   8.2 g/dL
   122 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.7 mEq/L
   46 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   12.6 K/uL
        [image002.jpg]
                            [**2187-12-4**]  11:47 AM
                            [**2187-12-4**]  01:47 PM
                            [**2187-12-4**]  01:56 PM
                            [**2187-12-4**]  05:45 PM
                            [**2187-12-5**]  12:57 AM
                            [**2187-12-5**]  04:59 AM
                            [**2187-12-5**]  09:06 AM
                            [**2187-12-5**]  01:49 PM
                            [**2187-12-6**]  05:05 AM
                            [**2187-12-6**]  05:17 AM
   WBC
   13.9
   12.6
   Hct
   25.8
   25.7
   26.9
   Plt
   934
   815
   Cr
   1.0
   0.9
   0.9
   0.8
   TCO2
   35
   34
   35
   39
   36
   32
   Glucose
   105
   151
   153
   122
   Other labs: PT / PTT / INR:13.8/26.8/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:60/42, Alk Phos / T Bili:216/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:74.7 %, Band:10.0 %, Lymph:15.3 %, Mono:5.1 %,
   Eos:4.5 %, Fibrinogen:1291 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3
   g/dL, LDH:233 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH and possible infiltrate on CXR
   1. Respiratory Failure
 Meets criteria for ARDS
 likely due to
   pneumonia with suspected H1N1 and superimposed bacterial infection
   complicated by ARDS
   -- Continue ventillator settings in compliance with ARDSnet ventilation
 last gas was 7.42/48/116
 decrease PEEP to 12 and check an abg [**1-19**]
   hours after the change.
   -- Acid Base status
 metabolic alkalosis likely due to contraction
   from diuresis.  Continue to use acetazolamide to diurese  and decrease
   bicarb for one more day
   -- ct wean sedation as tolerated
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 at OSH.
   Protracted clinical course may be [**2-19**] to bacterial superinfection or
   even VAP, with a component of drug fever. CT negative for effusion or
   fluid collection in the abdomen
 Currently afebrile, leukocytosis is
   trending down
   -- F/u pending cultures (C. Diff negative today, urine culture no
   growth, blood cx pending) from [**11-26**] and [**11-28**]
   -- Appreciate ID recs
   -- Tylenol PRN for fever
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at now 0.8
 contraction alkalosis improving, partially
   autodiuresing
   -- trend Cr
   -- Continue acetazolamide 250mg IV TID
   -- Fluid balance goal of negative 1 L today.
   -- D/C lasix drip and use lasix boluses if necessary to reach fluid
   balance goal though the combo of acetazolamide and autodiuresing is
   working well.
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  Repeat
   ultrasound negative.  Transaminases improving in the setting of DC
   antibiotics.
   -- Continue Ursadiol for one more day
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   -- f/u nutrition recs
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- Continue prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU
   14:02
   ------ Protected Section ------
   Agree with this excellent MSIV note. Will continue Acetazolamide and
   diuresis goal of -1L today using Lasix boluses as needed. Will continue
   to wean off PEEP and FiO2 as tolerated.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3169**] [**Last Name (NamePattern1) **], MD
   on:[**2187-12-6**] 23:43 ------

2187-12-06 10:49:00 Physician Attending Progress Note
Chief Complaint: acute respiratory failure, multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix drip stopped
   Diuresed with diamox
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2187-12-4**] 07:40 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-6**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 90 (77 - 103) bpm
   BP: 112/56(76) {89/52(70) - 151/95(114)} mmHg
   RR: 19 (16 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,488 mL
                                                                    501 mL
   PO:
             TF:
                                                                    723 mL
                                                                    305 mL
   IVF:
                                                                    660 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                  1,205 mL
   Urine:
                                                                  2,935 mL
                                                                  1,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,447 mL
                                                                   -704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 34 cmH2O
   SpO2: 95%
   ABG: 7.42/48/116/30/6
   Ve: 6.8 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   815 K/uL
   122 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.7 mEq/L
   46 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   12.6 K/uL
        [image002.jpg]
                            [**2187-12-4**]  11:47 AM
                            [**2187-12-4**]  01:47 PM
                            [**2187-12-4**]  01:56 PM
                            [**2187-12-4**]  05:45 PM
                            [**2187-12-5**]  12:57 AM
                            [**2187-12-5**]  04:59 AM
                            [**2187-12-5**]  09:06 AM
                            [**2187-12-5**]  01:49 PM
                            [**2187-12-6**]  05:05 AM
                            [**2187-12-6**]  05:17 AM
   WBC
   13.9
   12.6
   Hct
   25.8
   25.7
   26.9
   Plt
   934
   815
   Cr
   1.0
   0.9
   0.9
   0.8
   TCO2
   35
   34
   35
   39
   36
   32
   Glucose
   105
   151
   153
   122
   Other labs: PT / PTT / INR:13.8/26.8/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:60/42, Alk Phos / T Bili:216/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:74.7 %, Band:10.0 %, Lymph:15.3 %, Mono:5.1 %,
   Eos:4.5 %, Fibrinogen:1291 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3
   g/dL, LDH:233 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Secondary to dye
   load earlier in course, continues to improve.
 DIABETES MELLITUS (DM), TYPE II: RISS.  Adequately controlled.
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to multilobar
   pneumonia due to influenza and secondary bacterial PNA.  Continues to
   improve.  Try to decrease PEEP today.  Continue diuresis.  I/0 goals to
   keep her -1 to 1.5 L. Has continued to be afebrile, discontinue droplet
   precautions.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-12-07 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Diuresed -1.4L yesterday
   Current settings  - AC 470/16/8/40%
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2187-12-4**] 07:40 AM
   Infusions:
   Fentanyl (Concentrate) - 140 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-7**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-7**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 88 (73 - 96) bpm
   BP: 88/61(75) {88/55(70) - 133/70(86)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,141 mL
                                                                    322 mL
   PO:
             TF:
                                                                    720 mL
                                                                    211 mL
   IVF:
                                                                    361 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    690 mL
   Urine:
                                                                  2,250 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,109 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 94%
   ABG: 7.40/45/92.[**Numeric Identifier 132**]/26/1
   Ve: 7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GENERAL, Intubated, opening eyes to voice
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Skin:  Rash has resolved.
   Labs / Radiology
   769 K/uL
   8.1 g/dL
   140 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.8 mEq/L
   45 mg/dL
   108 mEq/L
   141 mEq/L
   25.8 %
   10.6 K/uL
        [image002.jpg]
                            [**2187-12-5**]  12:57 AM
                            [**2187-12-5**]  04:59 AM
                            [**2187-12-5**]  09:06 AM
                            [**2187-12-5**]  01:49 PM
                            [**2187-12-6**]  05:05 AM
                            [**2187-12-6**]  05:17 AM
                            [**2187-12-6**]  05:20 PM
                            [**2187-12-6**]  08:51 PM
                            [**2187-12-7**]  03:52 AM
                            [**2187-12-7**]  04:03 AM
   WBC
   13.9
   12.6
   10.6
   Hct
   25.8
   25.7
   26.9
   25.8
   Plt
   934
   815
   769
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   39
   36
   32
   29
   28
   29
   Glucose
   151
   153
   122
   147
   140
   Other labs: PT / PTT / INR:13.5/24.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:49/36, Alk Phos / T Bili:201/0.2, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH complicated by ARDS and respiratory failure that
   is currently clinically improving.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS
   -- Continue weaning ventillator settings as tolerated
 last gas was
   7.40/45/93
 decrease PEEP to 8 and check an abg 1-2 hours after the
   change.
   -- Acid Base status
 metabolic alkalosis likely due to contraction
   from diuresis.  Continue to use acetazolamide to diurese  and decrease
   bicarb for one more day
   -- ct wean sedation as tolerated
 currently on  Midazolam 8
   -- Trial of pressure support [**5-22**] this afternoon if PEEP of 8 is
   tolerated and oxygenation is maintained
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 at OSH.
   Protracted clinical course may be [**2-19**] to bacterial superinfection or
   even VAP, with a component of drug fever. CT negative for effusion or
   fluid collection in the abdomen
 Currently afebrile, leukocytosis is
   trending down
   -- ID signed off
   -- Tylenol PRN for fever
 currently afebrile for multiple days
   continue to monitor closely
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at now 0.8
 contraction alkalosis improving, partially
   autodiuresing
   -- trend Cr
   -- Stop acetazolamide, allow her to auto diurese
   -- Fluid balance goal of negative 1 L today. Use a bolus of Lasix if
   necessary.
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  Repeat
   ultrasound negative.  Transaminases improving in the setting of DC
   antibiotics.
   -- D/C Ursadiol for one more day
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   .
   # Depression
   -- Continue prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU
   10:16
   ------ Protected Section ------
   Agree with this excellent MSIV note.  The pt. continues to be making
   progress in terms of ventilator requirements.  Will continue to wean
   sedation.  Will decrease PEEP to 8 and check ABG.  If tolerated, will
   do a trial of PS 5/5 this afternoon.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3169**] [**Last Name (NamePattern1) **], MD
   on:[**2187-12-7**] 10:28 ------

2187-12-07 10:11:00 Physician Attending Progress Note
Chief Complaint: Multilobar pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues afebrile
   PEEP weaned to 10
   Minimal thin secretions per ETT
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 140 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-7**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-7**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 87 (73 - 96) bpm
   BP: 118/64(83) {88/57(73) - 133/70(86)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,141 mL
                                                                    517 mL
   PO:
             TF:
                                                                    720 mL
                                                                    299 mL
   IVF:
                                                                    361 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    865 mL
   Urine:
                                                                  2,250 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,109 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/45/92.[**Numeric Identifier 132**]/26/1
   Ve: 7.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anterolaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   769 K/uL
   140 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.8 mEq/L
   45 mg/dL
   108 mEq/L
   141 mEq/L
   25.8 %
   10.6 K/uL
        [image002.jpg]
                            [**2187-12-5**]  12:57 AM
                            [**2187-12-5**]  04:59 AM
                            [**2187-12-5**]  09:06 AM
                            [**2187-12-5**]  01:49 PM
                            [**2187-12-6**]  05:05 AM
                            [**2187-12-6**]  05:17 AM
                            [**2187-12-6**]  05:20 PM
                            [**2187-12-6**]  08:51 PM
                            [**2187-12-7**]  03:52 AM
                            [**2187-12-7**]  04:03 AM
   WBC
   13.9
   12.6
   10.6
   Hct
   25.8
   25.7
   26.9
   25.8
   Plt
   934
   815
   769
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   39
   36
   32
   29
   28
   29
   Glucose
   151
   153
   122
   147
   140
   Other labs: PT / PTT / INR:13.5/24.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:49/36, Alk Phos / T Bili:201/0.2, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER:  Metabolic alkalosis imrpoved on
   diamox which will stop today.  Diurese with lasix if needed, goal to
   keep 1 to 1.5 L negative.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr at 0.8.
   Continues to diurese.
 IMPAIRED SKIN INTEGRITY:  Tongue ulcer continues to improve.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Afebrile
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Resolving, now down to 10  PEEP, Fi02 50%.  Now down to 8 PEEP this
   morning.
 DIABETES MELLITUS (DM), TYPE II:  RISS
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to influenza
   pneumonia and probable superimposed bacterial infection.  Now off
   antibiotics, afebrile, WBC continues to improve.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-7**] 02:42 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-12-08 07:51:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -at AM rounds, PEEP 8 FiO2 40%
   -changed to pressure support, most recent gas 7.38/443/80
   Allergies:
   Cefepime--Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 112 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-8**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-8**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 87 (77 - 95) bpm
   BP: 117/59(81) {81/56(73) - 148/81(272)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,249 mL
                                                                    338 mL
   PO:
             TF:
                                                                    721 mL
                                                                    235 mL
   IVF:
                                                                    348 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    715 mL
   Urine:
                                                                  1,945 mL
                                                                    715 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -896 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 465 (0 - 480) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/43/80.[**Numeric Identifier 176**]/24/0
   Ve: 6 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GENERAL, Intubated, opening eyes to voice
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Skin:  Rash has resolved.
   Labs / Radiology
   787 K/uL
   8.5 g/dL
   128 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.9 mEq/L
   36 mg/dL
   111 mEq/L
   141 mEq/L
   26.3 %
   11.4 K/uL
        [image002.jpg]
                            [**2187-12-6**]  05:17 AM
                            [**2187-12-6**]  05:20 PM
                            [**2187-12-6**]  08:51 PM
                            [**2187-12-7**]  03:52 AM
                            [**2187-12-7**]  04:03 AM
                            [**2187-12-7**]  10:38 AM
                            [**2187-12-7**]  02:40 PM
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
   WBC
   10.6
   11.4
   Hct
   25.8
   26.3
   Plt
   769
   787
   Cr
   0.8
   0.7
   0.7
   TCO2
   32
   29
   28
   29
   27
   28
   26
   Glucose
   147
   140
   120
   128
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:49/36, Alk Phos / T Bili:201/0.2, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH complicated by ARDS and respiratory failure that
   is currently clinically improving.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS
   -- Continue weaning ventillator settings as tolerated
 last gas was
   7.40/45/93
 decrease PEEP to 8 and check an abg 1-2 hours after the
   change.
   -- Acid Base status
 metabolic alkalosis likely due to contraction
   from diuresis.  Continue to use acetazolamide to diurese  and decrease
   bicarb for one more day
   -- ct wean sedation as tolerated
 currently on  Midazolam 8
   -- Trial of pressure support [**5-22**] this afternoon if PEEP of 8 is
   tolerated and oxygenation is maintained
   2. Pneumonia / leukocytosis and fevers
 Questionable H1N1 at OSH.
   Protracted clinical course may be [**2-19**] to bacterial superinfection or
   even VAP, with a component of drug fever. CT negative for effusion or
   fluid collection in the abdomen
 Currently afebrile, leukocytosis is
   trending down
   -- ID signed off
   -- Tylenol PRN for fever
 currently afebrile for multiple days
   continue to monitor closely
   3. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at now 0.8
 contraction alkalosis improving, partially
   autodiuresing
   -- trend Cr
   -- Stop acetazolamide, allow her to auto diurese
   -- Fluid balance goal of negative 1 L today. Use a bolus of Lasix if
   necessary.
   4. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  Repeat
   ultrasound negative.  Transaminases improving in the setting of DC
   antibiotics.
   -- D/C Ursadiol for one more day
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   # Depression
   -- Continue prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-08 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 112 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-8**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-8**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 87 (77 - 95) bpm
   BP: 117/59(81) {81/56(73) - 148/81(272)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,249 mL
                                                                    342 mL
   PO:
             TF:
                                                                    721 mL
                                                                    237 mL
   IVF:
                                                                    348 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    715 mL
   Urine:
                                                                  1,945 mL
                                                                    715 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -896 mL
                                                                   -373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 465 (0 - 480) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/43/80.[**Numeric Identifier 176**]/24/0
   Ve: 6 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   787 K/uL
   128 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.9 mEq/L
   36 mg/dL
   111 mEq/L
   141 mEq/L
   26.3 %
   11.4 K/uL
        [image002.jpg]
                            [**2187-12-6**]  05:17 AM
                            [**2187-12-6**]  05:20 PM
                            [**2187-12-6**]  08:51 PM
                            [**2187-12-7**]  03:52 AM
                            [**2187-12-7**]  04:03 AM
                            [**2187-12-7**]  10:38 AM
                            [**2187-12-7**]  02:40 PM
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
   WBC
   10.6
   11.4
   Hct
   25.8
   26.3
   Plt
   769
   787
   Cr
   0.8
   0.7
   0.7
   TCO2
   32
   29
   28
   29
   27
   28
   26
   Glucose
   147
   140
   120
   128
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:49/36, Alk Phos / T Bili:201/0.2, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-7**] 07:21 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2187-12-09 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Doing a lot better, currently on FiO2 40%
   -On PS 12/8/40%
   -Meeting fluid balance goals
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 60 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-9**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-9**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 97 (78 - 102) bpm
   BP: 143/74(101) {100/55(74) - 146/88(101)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,197 mL
                                                                    306 mL
   PO:
             TF:
                                                                    720 mL
                                                                    228 mL
   IVF:
                                                                    287 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    740 mL
   Urine:
                                                                  2,255 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                   -434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 373 (373 - 438) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.38/43/95.[**Numeric Identifier 218**]/25/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GENERAL, Intubated, opening eyes to voice, SMILED TODAY!!!! Moved lower
   extremities
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Skin:  Rash has resolved.
   Labs / Radiology
   711 K/uL
   8.6 g/dL
   138 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   29 mg/dL
   110 mEq/L
   139 mEq/L
   26.5 %
   10.5 K/uL
        [image002.jpg]
                            [**2187-12-7**]  10:38 AM
                            [**2187-12-7**]  02:40 PM
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
   WBC
   11.4
   10.5
   Hct
   26.3
   26.5
   Plt
   787
   711
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   28
   26
   27
   26
   27
   26
   Glucose
   120
   128
   138
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:32/27, Alk Phos / T Bili:182/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH complicated by ARDS and respiratory failure that
   is currently clinically improving.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS
   -- Pt did not tolerate PS [**12-25**], became agitated/dysynchronous/
   desatting slightly during turning so will increase PEEP to 10 and
   possibly 12 today. Likely trial of PS 5/5 tmrw.
   -- ct wean sedation as tolerated
 currently on  Midazolam 4.5 from 8
   -- cts to be off abx for presumed pna. Remains afebrile
   2. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Improving,
   Creatinine at now 0.8
 contraction alkalosis improving, partially
   autodiuresing
   -- trend Cr
   -- Stop acetazolamide, allow her to auto diurese
   -- Fluid balance goal of negative 0.5-1 L today.
   -- will check PM I
s & Os and Use a bolus of Lasix if necessary.
   3. Elevated LFTs: Unclear etiology, likely related to infection vs.
   meds. ALT, AST and AP elevations in cholestatic pattern raises concern
   for acalculous cholecystitis; however, pt is s/p CCY.  Repeat
   ultrasound negative.  Transaminases improving in the setting of DC
   antibiotics.
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   .
   #. HL
   -- Continue to hold lipitor in the setting of increasing LFTs
   # Depression
   -- Continue prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-09 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 60 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-9**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-9**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 102 (78 - 102) bpm
   BP: 155/87(116) {100/55(74) - 155/88(116)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                  1,197 mL
                                                                    328 mL
   PO:
             TF:
                                                                    720 mL
                                                                    245 mL
   IVF:
                                                                    287 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    740 mL
   Urine:
                                                                  2,255 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 734 (373 - 734) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.38/43/95.[**Numeric Identifier 218**]/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   711 K/uL
   138 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   29 mg/dL
   110 mEq/L
   139 mEq/L
   26.5 %
   10.5 K/uL
        [image002.jpg]
                            [**2187-12-7**]  10:38 AM
                            [**2187-12-7**]  02:40 PM
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
   WBC
   11.4
   10.5
   Hct
   26.3
   26.5
   Plt
   787
   711
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   28
   26
   27
   26
   27
   26
   Glucose
   120
   128
   138
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:32/27, Alk Phos / T Bili:182/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]),
   resp failure
 will continue to wean pressure support, diurese,
   increase PEEP
 .H/O DIABETES MELLITUS (DM), TYPE II - SSI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-9**] 03:52 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2187-12-10 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pressure support decreased to 8 in AM, now PS 8/8/40%, doing well.
   -Negative 1.2 liters this PM.
   -Added propofol to sedation options to be used in place of Midaz
   boluses for agitation.  We discussed weaning down Fentanyl, and
   starting Methadone for pain control in order to maximally wean off
   sedation.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-10**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 92 (86 - 102) bpm
   BP: 99/78(90) {99/66(87) - 155/96(116)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    949 mL
                                                                    276 mL
   PO:
             TF:
                                                                    720 mL
                                                                    211 mL
   IVF:
                                                                    229 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    545 mL
   Urine:
                                                                  2,460 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,511 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 364 (327 - 734) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.42/41/99.[**Numeric Identifier 508**]/24/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GENERAL, Intubated, opening eyes to voice, following verbal commands.
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Skin:  Rash has resolved.
   Labs / Radiology
   678 K/uL
   9.3 g/dL
   136 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.5 mEq/L
   24 mg/dL
   106 mEq/L
   136 mEq/L
   29.3 %
   11.2 K/uL
        [image002.jpg]
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
   WBC
   11.4
   10.5
   11.2
   Hct
   26.3
   26.5
   29.3
   Plt
   [**Telephone/Fax (3) 11730**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   28
   26
   27
   26
   27
   26
   28
   Glucose
   128
   138
   136
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:32/27, Alk Phos / T Bili:182/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH complicated by ARDS and respiratory failure that
   is currently clinically improving.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS
   -- Continue to decrease PS as tolerated.  A trial of PS 8/8/40% this
   AM.
   -- ct wean sedation as tolerated
 continues to be off abx for presumed
   pna. Remains afebrile
   -- f/u ABGs
   2. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Creatinine at
   now 0.6, at baseline.
   -- trend Cr
   -- Continue autodiuresis
   -- Fluid balance goal of negative 0.5-1 L today. Use a bolus of Lasix
   if necessary.
   3. Elevated LFTs: Transaminases icontinuing to improve in the setting
   of DC
d antibiotics.
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   .
   #. HL
   -- Continue to hold Lipitor in the setting of increasing LFTs
   .
   # Depression
   -- Continue Prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-10 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pressure support decreased to 8 in AM, now PS 8/8/40%, doing well.
   -Negative 1.2 liters this PM.
   -Added propofol to sedation options to be used in place of Midaz
   boluses for agitation.  We discussed weaning down Fentanyl, and
   starting Methadone for pain control in order to maximally wean off
   sedation.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-10**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 92 (86 - 102) bpm
   BP: 99/78(90) {99/66(87) - 155/96(116)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    949 mL
                                                                    287 mL
   PO:
             TF:
                                                                    720 mL
                                                                    220 mL
   IVF:
                                                                    229 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    545 mL
   Urine:
                                                                  2,460 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,511 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 364 (327 - 734) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.42/41/99.[**Numeric Identifier 508**]/24/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GENERAL, Intubated, opening eyes to voice, following verbal commands.
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: 1+ pitting edema in bilateral upper extremities.  Trace
   edema in bilateral lower extremities.
   SKIN: Marked improvement of macular rash.
   Skin:  Rash has resolved.
   Labs / Radiology
   678 K/uL
   9.3 g/dL
   136 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.5 mEq/L
   24 mg/dL
   106 mEq/L
   136 mEq/L
   29.3 %
   11.2 K/uL
        [image002.jpg]
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
   WBC
   11.4
   10.5
   11.2
   Hct
   26.3
   26.5
   29.3
   Plt
   [**Telephone/Fax (3) 11730**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   28
   26
   27
   26
   27
   26
   28
   Glucose
   128
   138
   136
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:32/27, Alk Phos / T Bili:182/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH complicated by ARDS and respiratory failure that
   is currently clinically improving.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS
   -- Continue to decrease PS as tolerated.  A trial of PS 8/8/40% this
   AM.
   -- ct wean sedation as tolerated
 continues to be off abx for presumed
   pna. Remains afebrile
   -- f/u ABGs
   2. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Creatinine at
   now 0.6, at baseline.
   -- trend Cr
   -- Continue autodiuresis
   -- Fluid balance goal of negative 0.5-1 L today. Use a bolus of Lasix
   if necessary.
   3. Elevated LFTs: Transaminases icontinuing to improve in the setting
   of DC
d antibiotics.
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   .
   #. HL
   -- Continue to hold Lipitor in the setting of increasing LFTs
   .
   # Depression
   -- Continue Prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-5**] 12:56 AM 30 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2187-12-3**] 07:48 AM
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daughter and family
   Code status: Full code
   Disposition: ICU

2187-12-10 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ---PSV decrease to [**8-25**] and FIO2=0.4
   -Continued negative fluid balance to 1.5 liters
   -
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2187-12-10**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 90 (86 - 102) bpm
   BP: 106/95(101) {99/66(87) - 149/96(111)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    949 mL
                                                                    345 mL
   PO:
             TF:
                                                                    720 mL
                                                                    264 mL
   IVF:
                                                                    229 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    645 mL
   Urine:
                                                                  2,460 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,511 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 360 (327 - 393) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.42/41/99.[**Numeric Identifier 508**]/24/1
   Ve: 5.9 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   678 K/uL
   136 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.5 mEq/L
   24 mg/dL
   106 mEq/L
   136 mEq/L
   29.3 %
   11.2 K/uL
        [image002.jpg]
                            [**2187-12-7**]  06:52 PM
                            [**2187-12-8**]  04:41 AM
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
   WBC
   11.4
   10.5
   11.2
   Hct
   26.3
   26.5
   29.3
   Plt
   [**Telephone/Fax (3) 11730**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   28
   26
   27
   26
   27
   26
   28
   Glucose
   128
   138
   136
   Other labs: PT / PTT / INR:13.5/30.7/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:32/27, Alk Phos / T Bili:182/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:222 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-Persistent bilateral patch opacities--some increased
   opacities at bases concerning for effusion/atelectasis
   Assessment and Plan
   63 yo female with admission with hypoexemic respiratory
   failure--concerning for H1N1 and now complicated by bacterial
   pneumonia, renal failure and now with improved renal function and
   fevers decreased but has now had prolonged ventilatory failure with
   persistent pulmonary edema, excess sedation and high PEEP
   requirements.  Through to this morning patient has had significant
   negative fluid balance and improved mental status and absence of fever
   or concern for increased secretions at this time all making possible
   extubation more favorable through to today.  The most concerning issue
   may be upper airway edema which will be checked with evaluation of cuff
   leak prior to extubation, we will turn sedation off and move to SBT and
   extubation this morning.  We have major concern for weakness following
   extubation and may need intermittent positive pressure ventilation for
   support.
   1)Respiratory Failure-Excellent ABG with minimal Ve requirement ([**6-24**]
   lpm) and will need some significant O2 support following extubation.
   -Will need to check cuff leak and maintain good support for secretion
   clearance following extubation.
   -If she has significant weakness will need to consider modes for
   ventilatory support
   -Patient appears to benefit from continued diuresis but has no evidence
   of acute volume overload.
   -If cuff leak favorable will move to extubation
   -OOB to chair when possible
   -Will move to extubation this morning with sedation weaned off
   -CXR is concerning with persistent multifocal infiltrates
   2)Agitation-
   -Will move to Methadone this morning
   -Will use Zyprexa if needed
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-12-9**] 08:24 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Hep- SQ
   Stress ulcer: PPI
   VAP:
   Comments: Fent/Versed
will move to methadone
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2187-12-11 07:04:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-12-10**] 10:31 AM
   EXTUBATED!!
   Got zofran for nausea o/n, otherwise no events
   Allergies: Cefepime- Rash
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-11**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-11**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 108 (82 - 116) bpm
   BP: 160/86(115) {106/84(101) - 167/125(135)} mmHg
   RR: 24 (14 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    428 mL
                                                                     35 mL
   PO:
             TF:
                                                                    270 mL
   IVF:
                                                                    158 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    510 mL
   Urine:
                                                                  1,655 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,227 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 15 cmH2O
   SpO2: 93%
   ABG: 7.44/41/198/25/4
   Ve: 5.9 L/min
   PaO2 / FiO2: 330
   Physical Examination
   GENERAL, extubated
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: ventilated clear breath sounds bilaterally.
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: Trace edema in bilateral lower extremities.
   SKIN: rash resolved
   Skin:  Rash has resolved.
   Labs / Radiology
   660 K/uL
   9.8 g/dL
   131 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   22 mg/dL
   105 mEq/L
   139 mEq/L
   29.8 %
   13.8 K/uL
        [image002.jpg]
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
                            [**2187-12-10**]  03:36 PM
                            [**2187-12-11**]  03:01 AM
   WBC
   10.5
   11.2
   13.8
   Hct
   26.5
   29.3
   29.8
   Plt
   [**Telephone/Fax (3) 11745**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   26
   27
   26
   27
   26
   28
   29
   Glucose
   138
   136
   131
   Other labs: PT / PTT / INR:13.2/24.2/1.1, CK / CKMB / Troponin-T:25//,
   ALT / AST:27/24, Alk Phos / T Bili:174/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:259 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from the OSH complicated by ARDS and respiratory failure that
   is currently clinically improving.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS.  Doing well
   on [**2118-8-25**]%, improved Tv and minute ventilation.  Will attempt to
   extubate today.
   --Wean sedation off
   --Hold tube feeds
   --Extubation attempt today
   -Start on methadone for pain control
   --Zyprexa as needed for agitation
   --NIPPV after extubation as needed
   2. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Creatinine at
   now 0.6, at baseline.
   -- trend Cr
   -- Continue autodiuresis
   -- Fluid balance goal of negative 1-1.5L today. Use a bolus of Lasix if
   necessary.
   3. Elevated LFTs: Transaminases continuing to improve in the setting of
   DC
d antibiotics.
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   #. DM
   -- Continue on SSI
   .
   #. HL
   -- Continue to hold Lipitor in the setting of increasing LFTs
   .
   # Depression
   -- Continue Prozac
   ICU Care
   Nutrition: NPO for now, start diet today
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:  daughter, family
   [**Name2 (NI) 36**] status: Full code
   Disposition: [**Hospital Unit Name 1**]

2187-12-11 11:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-12-10**] 10:31 AM
   -Patient with continued good comfort following extubation.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-11**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-11**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (98 - 116) bpm
   BP: 153/96(122) {112/84(105) - 167/125(135)} mmHg
   RR: 23 (22 - 36) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    428 mL
                                                                     58 mL
   PO:
             TF:
                                                                    270 mL
   IVF:
                                                                    158 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    795 mL
   Urine:
                                                                  1,655 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,227 mL
                                                                   -737 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: 7.44/41/198/25/4
   PaO2 / FiO2: 330
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   660 K/uL
   131 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   22 mg/dL
   105 mEq/L
   139 mEq/L
   29.8 %
   13.8 K/uL
        [image002.jpg]
                            [**2187-12-8**]  05:02 AM
                            [**2187-12-8**]  01:34 PM
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
                            [**2187-12-10**]  03:36 PM
                            [**2187-12-11**]  03:01 AM
   WBC
   10.5
   11.2
   13.8
   Hct
   26.5
   29.3
   29.8
   Plt
   [**Telephone/Fax (3) 11745**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   26
   27
   26
   27
   26
   28
   29
   Glucose
   138
   136
   131
   Other labs: PT / PTT / INR:13.2/24.2/1.1, CK / CKMB / Troponin-T:25//,
   ALT / AST:27/24, Alk Phos / T Bili:174/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:259 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Very poor quality film
   Microbiology: None new
   Assessment and Plan
   63 yo female admitted with multifocal pneumonia, influenza and with
   subsequent hypoxemic respiratory failure.  She now has successfully
   extubated and shown good stability across time with continued close
   respiratory support.
   1)Respiratory Failure--Hypoxemic and secondary to multifocal pneumonia
   -Albuterol
   -OOB and PT needed now
   -Continue with incentive spirometry
   -Will need to get to chair today
   2) Pneumonia-
   -ABX completed
   ICU Care
   Nutrition: PO diet and will consider supervised feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2187-12-3**] 08:36 PM
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2187-12-12 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -No events
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-11**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 75 (75 - 108) bpm
   BP: 145/77(92) {122/57(72) - 151/94(101)} mmHg
   RR: 24 (21 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    620 mL
                                                                     34 mL
   PO:
             TF:
   IVF:
                                                                    620 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  1,396 mL
                                                                    260 mL
   Urine:
                                                                  1,396 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -776 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on NC
   ABG: ///25/
   Physical Examination
   GENERAL, extubated, appropriately conversant, wearing high flow neb
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: clear breath sounds bilaterally (anterior exam)
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: Trace edema in bilateral lower extremities.
   Skin:  Rash has resolved.
   Labs / Radiology
   634 K/uL
   9.8 g/dL
   116 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   134 mEq/L
   30.1 %
   12.9 K/uL
        [image002.jpg]
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
                            [**2187-12-10**]  03:36 PM
                            [**2187-12-11**]  03:01 AM
                            [**2187-12-11**]  02:58 PM
                            [**2187-12-12**]  04:46 AM
   WBC
   10.5
   11.2
   13.8
   13.8
   12.9
   Hct
   26.5
   29.3
   29.8
   29.8
   30.1
   Plt
   [**Telephone/Fax (3) 11765**]60
   634
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   26
   27
   26
   28
   29
   Glucose
   138
   136
   131
   116
   Other labs: PT / PTT / INR:13.2/24.2/1.1, CK / CKMB / Troponin-T:25//,
   ALT / AST:27/24, Alk Phos / T Bili:174/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from OSH complicated by ARDS and respiratory failure, now
   extubated and doing well.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS, extubated!
   -- Zyprexa PRN agitation
   -- NIPPV PRN
   -- Speech & Swallow evaluation today (as coughed when taking PO meds)
   -- PT/ OT eval for rehab placement
   2. Acute renal failure
 Likely [**2-19**] contrast nephropathy. Creatinine at
   now 0.6, at baseline.
   -- trend Cr
   -- Continue autodiuresis
   -- Fluid balance goal of negative 1-1.5L today. Use a bolus of Lasix if
   necessary.
   3. Elevated LFTs: Transaminases continuing to improve in the setting of
   DC
d antibiotics.
   -- Continue to trend
   -- Hep A IgG positive
   -- Hep B S ab negative
 vaccinate during admission
   ICU Care
   Nutrition: start diet today, as pt passed speech & swallow
 clear
   liquids
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:  daughter, family
   [**Name2 (NI) 36**] status: Full code
   Disposition: [**Hospital Unit Name 1**], possible c/o to floor in AM

2187-12-12 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2187-12-11**] 12:00 PM
   Slow to improve altered mental status
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-11**] 03:00 PM
   Lansoprazole (Prevacid) - [**2187-12-12**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2187-12-12**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 108 (75 - 108) bpm
   BP: 136/79(90) {122/57(72) - 151/94(101)} mmHg
   RR: 26 (21 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    620 mL
                                                                     55 mL
   PO:
             TF:
   IVF:
                                                                    620 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,396 mL
                                                                    480 mL
   Urine:
                                                                  1,396 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -776 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
Patient with
   response to commands, symmetric LE and UE weakness, bilateral PT
   reflexes symmetric and 2+.  PEERL and EOMI
   Labs / Radiology
   9.8 g/dL
   634 K/uL
   116 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   134 mEq/L
   30.1 %
   12.9 K/uL
        [image002.jpg]
                            [**2187-12-8**]  05:09 PM
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
                            [**2187-12-10**]  03:36 PM
                            [**2187-12-11**]  03:01 AM
                            [**2187-12-11**]  02:58 PM
                            [**2187-12-12**]  04:46 AM
   WBC
   10.5
   11.2
   13.8
   13.8
   12.9
   Hct
   26.5
   29.3
   29.8
   29.8
   30.1
   Plt
   [**Telephone/Fax (3) 11765**]60
   634
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   26
   27
   26
   28
   29
   Glucose
   138
   136
   131
   116
   Other labs: PT / PTT / INR:13.2/24.2/1.1, CK / CKMB / Troponin-T:25//,
   ALT / AST:27/24, Alk Phos / T Bili:174/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-None
   Assessment and Plan
   63 yo female with obesity and admit with H1N1 and subsequent hypoxemic
   respiratory failure now with successful extubation following prolonged
   course of ventilatory dependence.  She has had excellent stability of
   respiratory status following extubation and has been able to tolerate
   wean of oxygen level support.
   1)Respiratory Failure-
   OOB to chair
   Continue with O2
   Will need to mobilize to clear secretions
   2)Altered Mental Status-
   -Diffuse encephalopathy
no focal defects on neuro exam all consistent
   with slow to evolve improvement from encephalopathy.  This is likely
   medication effects but will have to monitor for any residual effects
   that may have been related to hypoxemia during acute illness
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 40 minutes

2187-12-13 07:41:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint: respiratory distress
   24 Hour Events:
   -Desatted into high 80s in the afternoon.  Not tachypneic.  Crackly on
   exam.  Given
   -Was all set to go to [**Hospital 997**] rehab, but kept overnight for
   observation.
   -Need to call daughter to let her know what time she is going
   tomorrow.  Someone from the family MUST be there for transport.
   Allergies:
   Cefepime--Rash
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-12-12**] 08:09 AM
   Furosemide (Lasix) - [**2187-12-12**] 04:29 PM
   Heparin Sodium (Prophylaxis) - [**2187-12-13**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-13**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 72 (66 - 108) bpm
   BP: 148/75(93) {116/59(74) - 149/83(98)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    550 mL
                                                                    145 mL
   PO:
                                                                    430 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    120 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    280 mL
   Urine:
                                                                  1,200 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   GENERAL, extubated, conversant, but at times confused
   HEENT: Normocephalic, atraumatic. PERRL. Tongue laceration improving.
   CARDIAC: RRR  with no m/r/g
   LUNGS: clear breath sounds bilaterally (anterior exam)
   ABDOMEN: obese, normoactive BS. Soft, NT, ND.
   EXTREMITIES: Trace edema in bilateral lower extremities.
   Skin:  Rash has resolved.
   Labs / Radiology
   634 K/uL
   9.8 g/dL
   119 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   24 mg/dL
   101 mEq/L
   132 mEq/L
   30.1 %
   12.9 K/uL
        [image002.jpg]
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
                            [**2187-12-10**]  03:36 PM
                            [**2187-12-11**]  03:01 AM
                            [**2187-12-11**]  02:58 PM
                            [**2187-12-12**]  04:46 AM
                            [**2187-12-13**]  06:00 AM
   WBC
   10.5
   11.2
   13.8
   13.8
   12.9
   Hct
   26.5
   29.3
   29.8
   29.8
   30.1
   Plt
   [**Telephone/Fax (3) 11765**]60
   634
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   27
   26
   28
   29
   Glucose
   138
   136
   131
   116
   119
   Other labs: PT / PTT / INR:13.2/24.2/1.1, CK / CKMB / Troponin-T:25//,
   ALT / AST:27/24, Alk Phos / T Bili:174/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   63F with fever, shortness of breath, and hypoxia, questionable H1N1
   influenza from OSH complicated by ARDS and respiratory failure, now
   extubated and doing well.
   1. Respiratory Failure
 likely due to pneumonia with suspected H1N1
   and superimposed bacterial infection complicated by ARDS, extubated!
   -- O2 supplementation as needed; monitor O2 requirement
   [**Hospital **] Rehab
   2. Confusion
 likely delirium secondary to long hospitalization and
   incubation.  No signs of active infection.
   --Montinue to monitor
   ICU Care
   Nutrition: Advance diet as tolerated to regular
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:  daughter, family
   [**Name2 (NI) 36**] status: Full code
   Disposition:  rehab facility today

2187-12-13 12:32:00 Physician Attending Progress Note
CRITICAL CARE ATTENDING
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   episodes of hypoxemia that responded to incentive spirometry
   feels well this morning
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-12**] 04:29 PM
   Heparin Sodium (Prophylaxis) - [**2187-12-13**] 06:12 AM
   Omeprazole (Prilosec) - [**2187-12-13**] 09:37 AM
   Other medications:
   magnesium, SQH, topicals, SQI, bowel reg, nebs, flueoxetine, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-12-13**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 81 (66 - 100) bpm
   BP: 146/68(85) {116/59(74) - 155/83(98)} mmHg
   RR: 23 (11 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119 kg (admission): 110 kg
   Height: 64 Inch
             Total In:
                                                                    550 mL
                                                                    239 mL
   PO:
                                                                    430 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    120 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    640 mL
   Urine:
                                                                  1,200 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   634 K/uL
   119 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   24 mg/dL
   101 mEq/L
   132 mEq/L
   30.1 %
   12.9 K/uL
        [image002.jpg]
                            [**2187-12-8**]  08:54 PM
                            [**2187-12-9**]  01:43 AM
                            [**2187-12-9**]  01:57 AM
                            [**2187-12-9**]  12:21 PM
                            [**2187-12-10**]  03:49 AM
                            [**2187-12-10**]  03:36 PM
                            [**2187-12-11**]  03:01 AM
                            [**2187-12-11**]  02:58 PM
                            [**2187-12-12**]  04:46 AM
                            [**2187-12-13**]  06:00 AM
   WBC
   10.5
   11.2
   13.8
   13.8
   12.9
   Hct
   26.5
   29.3
   29.8
   29.8
   30.1
   Plt
   [**Telephone/Fax (3) 11765**]60
   634
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   27
   26
   28
   29
   Glucose
   138
   136
   131
   116
   119
   Other labs: PT / PTT / INR:13.2/24.2/1.1, CK / CKMB / Troponin-T:25//,
   ALT / AST:27/24, Alk Phos / T Bili:174/0.3, Amylase / Lipase:22/22,
   Differential-Neuts:69.0 %, Band:10.0 %, Lymph:19.5 %, Mono:5.0 %,
   Eos:6.0 %, Fibrinogen:1291 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2187-12-4**] 08:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: PPI is home med
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   will call family
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: